2163-12-26 08:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2163-12-25**] 10:50 AM
   abdominal
 ARTERIAL LINE - START [**2163-12-25**] 08:00 PM
 NON-INVASIVE VENTILATION - STOP [**2163-12-25**] 11:39 PM
 INVASIVE VENTILATION - START [**2163-12-25**] 11:43 PM
 FEVER - 101.6
F - [**2163-12-25**] 08:00 AM
   - Flu A positive
   - Started Bactrim for empiric PCP coverage
   [**Name Initial (PRE) **] Abd pain: increased BM regimen, abd u/s (WET read: no ascites,
   adenomyomatosis in GB, main portal vein patent) and KUB (nonspecific
   bowel gas, no obstruction, min distention of ascending colon)
   - VBG: 7.35/55/62/32  --> repeat ABG 630pm 7.41/49/103/32 --> ABG
   - In afternoon looking to be a little more somnolent, continued
   tachypneic on BiPAP, red in the face, would open eyes to command and
   answered appropriately, but looking like working harder.
 intubated
   for intolerance of BiPAP, nasal skin breakdown
   - Art line in
   - Febrile to 101.6 earlier today, got BCx x2
   - 2nd PIV placed
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-25**] 09:52 AM
   Vancomycin - [**2163-12-25**] 08:00 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2163-12-25**] 11:30 PM
   Propofol - [**2163-12-25**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-26**] 08:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.8
C (98.2
   HR: 67 (67 - 100) bpm
   BP: 97/54(68) {91/46(-2) - 156/71(94)} mmHg
   RR: 22 (19 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,654 mL
                                                                    330 mL
   PO:
                                                                  1,350 mL
             TF:
   IVF:
                                                                  2,304 mL
                                                                    290 mL
   Blood products:
   Total out:
                                                                  2,560 mL
                                                                    612 mL
   Urine:
                                                                  2,560 mL
                                                                    612 mL
   NG:
   Stool:
   Drains:
   Balance:
                             1,094  --> approx 1L positive through LOS  mL
                                                                   -282 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 376 (376 - 1,103) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 91
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: 7.37/51/155/28/3
   Ve: 11.2 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Sedated and intubated, not responsive to voice
   Cardiovascular: Unable to ausculatate heart sounds or palpate bilateral
   radial or DP's
   Peripheral Vascular: (Right radial pulse: Absent), (Left radial pulse:
   Absent), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: L side has diffuse rhonchi whereas R side is
   fairly clear, both have good air movement
   Abdominal: Obese, BS positive. No grimacing to palpation of his abdomen
   Extremities: No BLE edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   254 K/uL
   9.8 g/dL
   64
   1.0 mg/dL
   28 mEq/L
   4.3 mEq/L
   19 mg/dL
   107 mEq/L
   142 mEq/L
   29.4 %
   5.2 K/uL
        [image002.jpg]
                            [**2163-12-24**]  09:24 PM
                            [**2163-12-25**]  01:40 AM
                            [**2163-12-25**]  03:50 AM
                            [**2163-12-25**]  04:52 AM
                            [**2163-12-25**]  06:24 PM
                            [**2163-12-25**]  08:35 PM
                            [**2163-12-26**]  02:00 AM
                            [**2163-12-26**]  02:02 AM
                            [**2163-12-26**]  06:00 AM
   WBC
   8.1
   5.2
   Hct
   32.5
   29.4   TRENDING DOWN
   Plt
   245
   254 STABLE
   Cr
   1.3
   1.0
   TCO2
   35
   32
   30
   32
   32
   31
   Glucose
   78
   84
   64
   Other labs: PT / PTT / INR:13.4/32.5/1.1, ALT / AST:25/56   TRENDING
   DOWN , Alk Phos / T Bili:71/0.6, Amylase / Lipase:/148   <-- 148,
   Lactic Acid:1.0 mmol/L  ALL NORMAL , LDH:318 IU/L   TRENDING DOWN ,
   Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: Hapto 418, 430
   B12 and folate normal
   Transferrin and TIBC are low
   Ferritin is normal
   Iron is low 11
   Imaging: CXR this am
   [**12-25**] Abdomen plain film
   There is a nonspecific distribution of bowel gas pattern with no
   evidence of
   obstruction. There is minimal distention of the ascending colon but
   there is
   gas in the transverse, descending colon and rectum. Phleboliths are
   seen in the pelvis. Mild degenerative changes are in the lumbar spine.
   [**12-25**] abd u/s wet read
   No ascites
   Adenomyomatosis in GB
   Main portal vein patent.
   Microbiology: DFA positive for Influenza A
   BCx negative to date x2 and UCx negative to date
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Assessment and Plan:
   A 60 year old gentleman with HIV on HAART and new hypoxia, radiographic
   evidence of pneumonia, and influenza A
    1) Hypoxia: The patient's hypoxia is likely due to an underlying
   pulmonary process: bacterial community Acquired PNA, influenza or
   possibly PCP given his HIV.  PCP unlikely due to stable cd4 count and
   otherwise good HAART compliance, however, pt was started on Bactrim
   yesterday for empiric treatment of PCP.
   [**Name Initial (NameIs) **] Continue Vanc, Ceftriaxone, Azithro x5days for CAP
   - Continue Bactrim empirically. As we are empirically treating him for
   PCP, [**Name10 (NameIs) **] will also start Prednisone 40mg PO bid.
   - Oseltamivir 150mg PO BID
   - Now that he is intubated, will do bronch and look for PCP, [**Name10 (NameIs) **]
   pt has already started empiric Bactrim.
   - Will watch him through today and try to wean down FiO2 and PEEP as
   tolerated
   - Daily RSBI and SBT's
   - Likely need to Tx underlying cause (PNA, influenza)
   2) Abdominal pain: Pt was complaining of abdominal pain before he was
   intubated. Lipase is mildly elevated and trending down, could be mild
   pancreatitis vs HIV meds.
   - Given elevated lipases, will stop the Propofol and start Fentanyl
   Versed instead
   - F/u imaging studies
   - Consider CT abdomen to assess pancreatitis
   - Continue aggressive BM regimen
   - Trend LFT's
   3) Acute Renal Failure: on admission, Cr has now normalized.
   - Trend Cr
   - Foley catheter to monitor UOP
   4) Anemia: The patient's Hct is lower than baseline without recent
   evidence of bleeding.  His MCV is 80, concern for iron deficiency
   anemia.  Hemolysis unlikely but not impossible.
   - Iron studies more consistent with chronic disease but not classic
   - Haptoglobin normal so less likely to be hemolysis
   - Type and screen
   - Trend Hct's
   5) HIV: Patient's HIV currently well controlled although not on HAART
   at this time due to illness.
   - restart HAART when reliably taking POs
   6) DM2: Blood sugars appear well controlled
   - Q6 ISS, no standing insulin
   7) Hyperlipidemia:  Hold Atorvastatin while sorting out liver
   dysfunction.
   FEN: No IVF, replete electrolytes, NPO for now. Will get Nutrition
   consult for initiation of TF
   Prophylaxis: Subcutaneous heparin; Omeprazole 20mg PO BID
   Access: peripherals 20g x2. [**Month (only) 51**] need PICC in future
   Code:  Full (discussed with patient)
   Communication: Patient & Sister [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11689**]
   Disposition: pending clinical improvement

2163-12-26 11:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60y/o man with HIV (VL 558  CD4 count 323), HepB presented with cough,
   fever, dyspnea, and hypoxemia.  Also with nausea for few days prior and
   discontinued medications including HAART.  Found to have RLL
   infiltrate. WBC 6.9, Hct 33, Plt 234.  Found to have H1N1.  Intubated
   overnight
   for respiratory distress.
   24 Hour Events:
 ULTRASOUND - At [**2163-12-25**] 10:50 AM
   abdominal
 ARTERIAL LINE - START [**2163-12-25**] 08:00 PM
 NON-INVASIVE VENTILATION - STOP [**2163-12-25**] 11:39 PM
 INVASIVE VENTILATION - START [**2163-12-25**] 11:43 PM
 FEVER - 101.6
F - [**2163-12-25**] 08:00 AM
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-25**] 09:52 AM
   Vancomycin - [**2163-12-25**] 08:00 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2163-12-25**] 11:30 PM
   Propofol - [**2163-12-25**] 11:30 PM
   Other medications:
   tamiflu
   bactrim 2tabs q8h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-26**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.8
C (98.2
   HR: 65 (65 - 100) bpm
   BP: 92/55(67) {91/46(-2) - 156/71(94)} mmHg
   RR: 18 (18 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,654 mL
                                                                    455 mL
   PO:
                                                                  1,350 mL
             TF:
   IVF:
                                                                  2,304 mL
                                                                    355 mL
   Blood products:
   Total out:
                                                                  2,560 mL
                                                                    750 mL
   Urine:
                                                                  2,560 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,094 mL
                                                                   -295 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 376 (376 - 1,103) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 91
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: 7.37/51/155/28/3
   Ve: 14 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   254 K/uL
   64
   1.0 mg/dL
   28 mEq/L
   4.3 mEq/L
   19 mg/dL
   107 mEq/L
   142 mEq/L
   29.4 %
   5.2 K/uL
        [image002.jpg]
                            [**2163-12-24**]  09:24 PM
                            [**2163-12-25**]  01:40 AM
                            [**2163-12-25**]  03:50 AM
                            [**2163-12-25**]  04:52 AM
                            [**2163-12-25**]  06:24 PM
                            [**2163-12-25**]  08:35 PM
                            [**2163-12-26**]  02:00 AM
                            [**2163-12-26**]  02:02 AM
                            [**2163-12-26**]  06:00 AM
   WBC
   8.1
   5.2
   Hct
   32.5
   29.4
   Plt
   245
   254
   Cr
   1.3
   1.0
   TCO2
   35
   32
   30
   32
   32
   31
   Glucose
   78
   84
   64
   Other labs: PT / PTT / INR:13.4/32.5/1.1, ALT / AST:25/56, Alk Phos / T
   Bili:71/0.6, Amylase / Lipase:/148, Lactic Acid:1.0 mmol/L, LDH:318
   IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Microbiology: blood and urine negative
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):
   Influenza PNA.  Given preserved CD4 and HAART compliance PCP is low
   suspicion.  But will do BAL to r/o PCP.  [**Name10 (NameIs) **] steroids for empiric PCP
   [**Name Initial (PRE) **].
   Continue vanco/CTX/azithro.
   Continue current vent setting, increase PEEP if worsening hypoxemia.
   Acute renal failure improved.
   Anemia:  follow Hct for now.
   Holding HAART therapy.
   ICU Care
   Nutrition:
   Comments: TFs.
   Glycemic Control:
   Lines:
   Arterial Line - [**2163-12-25**] 08:00 PM
   20 Gauge - [**2163-12-26**] 01:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2163-12-27 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: HIV on HAART w/ flu and PNA
   24 Hour Events:
   - bronch done w/ BAL.  PCP [**Name Initial (PRE) 420**].
   - had to go up on PEEP as patient was desatting.
   - nursing spoke w/ sister. She is sick herself, but should come in
   during the next few days.
   - changed propofol to versed/fentanyl given pancreatitis.
   - started tube feeds
   - started steroids for empiric PCP [**Name Initial (PRE) 10504**].
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-26**] 11:00 AM
   Vancomycin - [**2163-12-26**] 10:10 PM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-12-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-27**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 78 (65 - 86) bpm
   BP: 117/60(77) {92/51(64) - 151/111(127)} mmHg
   RR: 21 (18 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,411 mL
                                                                    547 mL
   PO:
             TF:
                                                                     85 mL
                                                                    215 mL
   IVF:
                                                                  1,086 mL
                                                                    212 mL
   Blood products:
   Total out:
                                                                  1,840 mL
                                                                    460 mL
   Urine:
                                                                  1,840 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -429 mL
                                                                     87 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.39/45/95.[**Numeric Identifier 218**]/26/1
   Ve: 12.5 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   275 K/uL
   10.3 g/dL
   114 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.9 mEq/L
   19 mg/dL
   107 mEq/L
   140 mEq/L
   33.4 %
   3.1 K/uL
        [image002.jpg]
                            [**2163-12-25**]  06:24 PM
                            [**2163-12-25**]  08:35 PM
                            [**2163-12-26**]  02:00 AM
                            [**2163-12-26**]  02:02 AM
                            [**2163-12-26**]  06:00 AM
                            [**2163-12-26**]  10:00 AM
                            [**2163-12-26**]  11:25 AM
                            [**2163-12-27**]  02:15 AM
                            [**2163-12-27**]  02:38 AM
                            [**2163-12-27**]  05:44 AM
   WBC
   5.2
   3.1
   Hct
   29.4
   33.4
   Plt
   254
   275
   Cr
   1.0
   1.0
   TCO2
   32
   32
   31
   28
   31
   28
   Glucose
   84
   64
   96
   114
   Other labs: PT / PTT / INR:13.4/32.5/1.1, ALT / AST:22/43, Alk Phos / T
   Bili:69/0.3, Amylase / Lipase:/103, Lactic Acid:1.1 mmol/L, LDH:318
   IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Imaging: [**12-26**] CXR
   IMPRESSION: Interval worsening of the retrocardiac left lung base
   consolidation in this patient with multifocal pneumonia.
   Microbiology: DFA (+) for Influenza A
   Sputum w/ PMN but no org on gm stain
   Assessment and Plan
   A 60 year old gentleman with HIV on HAART and new hypoxia, radiographic
   evidence of pneumonia, and influenza A
   .
   # Hypoxia: The patient's hypoxia is likely due to an underlying
   pulmonary process: bacterial community Acquired PNA, influenza or
   possibly PCP given his HIV.  PCP unlikely due to stable cd4 count and
   otherwise good HAART compliance, however, pt was started on Bactrim
   yesterday for empiric treatment of PCP.
   [**Name Initial (NameIs) **] Continue Vanc, Ceftriaxone, Azithro x5days for CAP
   - Continue Bactrim empirically. As we are empirically treating him for
   PCP, [**Name10 (NameIs) **] will also start Prednisone 40mg PO bid.
   - Oseltamivir 150mg PO BID
   - Will watch him through today and try to wean down FiO2 and PEEP as
   tolerated
   - Daily RSBI and SBT's
   2) Abdominal pain: Pt was complaining of abdominal pain before he was
   intubated. Lipase is mildly elevated and trending down, could be mild
   pancreatitis vs HIV meds.
   - Given elevated lipases, will stop the Propofol and start Fentanyl
   Versed instead
   - F/u imaging studies
   - Consider CT abdomen to assess pancreatitis
   - Continue aggressive BM regimen
   - Trend LFT's
   .
   3) Acute Renal Failure: on admission, Cr has now normalized.
   - Trend Cr
   - Foley catheter to monitor UOP
    .
   4) Anemia: The patient's Hct is lower than baseline without recent
   evidence of bleeding.  His MCV is 80, concern for iron deficiency
   anemia.  Hemolysis unlikely but not impossible.
   - Iron studies more consistent with chronic disease but not classic
   - Haptoglobin normal so less likely to be hemolysis
   - Type and screen
   - Trend Hct's
   .
   5) HIV: Patient's HIV currently well controlled although not on HAART
   at this time due to illness.
   - restart HAART when reliably taking POs
   .
   6) DM2: Blood sugars appear well controlled
   - Q6 ISS, no standing insulin
   .
   7) Hyperlipidemia:  Hold Atorvastatin while sorting out liver
   dysfunction.
   FEN: No IVF, replete electrolytes, NPO for now. Will get Nutrition
   consult for initiation of TF
   Prophylaxis: Subcutaneous heparin; Omeprazole 20mg PO BID
   Access: peripherals 20g x2. [**Month (only) 51**] need PICC in future
   Code:  Full (discussed with patient)
   Communication: Patient & Sister [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11689**]
   Disposition: pending clinical improvement

2163-12-27 11:34:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo man with HIV, CD4 360, admitted with respiratory failure and
   influenza PNA.  BAL yesterday to r/o PCP.  [**Name10 (NameIs) **] increase in PEEP
   due to decrease PO2.
   24 Hour Events:
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2163-12-27**] 08:30 AM
   Ceftriaxone - [**2163-12-27**] 10:05 AM
   Infusions:
   Fentanyl - 175 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-12-27**] 08:05 AM
   Other medications:
   azithro
   SSI
   miralaz
   bactrim
   prednisone
   colace
   atrovent/albuterol
   prevacid
   chlorhex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-27**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 75 (68 - 90) bpm
   BP: 120/61(79) {99/54(72) - 151/111(127)} mmHg
   RR: 17 (17 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,411 mL
                                                                  1,348 mL
   PO:
             TF:
                                                                     85 mL
                                                                    385 mL
   IVF:
                                                                  1,086 mL
                                                                    602 mL
   Blood products:
   Total out:
                                                                  1,840 mL
                                                                    800 mL
   Urine:
                                                                  1,840 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -429 mL
                                                                    548 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 8
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.39/45/95.[**Numeric Identifier 218**]/26/1
   Ve: 12.5 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: left base)
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, following commads
   Labs / Radiology
   10.3 g/dL
   275 K/uL
   114 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.9 mEq/L
   19 mg/dL
   107 mEq/L
   140 mEq/L
   33.4 %
   3.1 K/uL
        [image002.jpg]
                            [**2163-12-25**]  06:24 PM
                            [**2163-12-25**]  08:35 PM
                            [**2163-12-26**]  02:00 AM
                            [**2163-12-26**]  02:02 AM
                            [**2163-12-26**]  06:00 AM
                            [**2163-12-26**]  10:00 AM
                            [**2163-12-26**]  11:25 AM
                            [**2163-12-27**]  02:15 AM
                            [**2163-12-27**]  02:38 AM
                            [**2163-12-27**]  05:44 AM
   WBC
   5.2
   3.1
   Hct
   29.4
   33.4
   Plt
   254
   275
   Cr
   1.0
   1.0
   TCO2
   32
   32
   31
   28
   31
   28
   Glucose
   84
   64
   96
   114
   Other labs: PT / PTT / INR:13.4/32.5/1.1, ALT / AST:22/43, Alk Phos / T
   Bili:69/0.3, Amylase / Lipase:/103, Lactic Acid:1.1 mmol/L, LDH:318
   IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):
   - Influenza PNA  on Tamiflu
   await BAL results for PCP.
   [**Name10 (NameIs) 133**] continue current vent settings as he looks good.
   abdominal pain:  mild pancreatitis.
   Anemia: stable.
   HIV:  HAART on hold currently
   DM:  stable on SSI
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2163-12-26**] 06:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2163-12-25**] 08:00 PM
   20 Gauge - [**2163-12-26**] 01:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2163-12-28 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2163-12-27**] 07:00 PM
 ARTERIAL LINE - START [**2163-12-27**] 08:15 PM
   - Peep down to 8
   - Steroids and Bactrim stopped b/c PCP negative
   [**Name Initial (PRE) **] Family meeting with sister and brother
   - A line stopped working, re-lined.  Required much sedation to tolerate
   - 300 fentanyl and 9 mg versed
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-27**] 10:05 AM
   Vancomycin - [**2163-12-27**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2163-12-27**] 08:07 PM
   Fentanyl - [**2163-12-27**] 08:07 PM
   Heparin Sodium (Prophylaxis) - [**2163-12-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-28**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 76 (71 - 94) bpm
   BP: 100/51(66) {100/44(64) - 139/79(95)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,628 mL
                                                                    494 mL
   PO:
             TF:
                                                                    894 mL
                                                                    197 mL
   IVF:
                                                                  1,254 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                  1,695 mL
                                                                    320 mL
   Urine:
                                                                  1,695 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    933 mL
                                                                    174 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 403 (403 - 403) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 59
   PIP: 18 cmH2O
   Plateau: 17 cmH2O
   SpO2: 94%
   ABG: 7.37/46/119/30/1
   Ve: 8.6 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Gen: intubated, responsive.  Awake and interactive, denies pain
   Neck: enlarged and erythematous
   Lungs: moving air bilaterally
   Heart: NRRR; no murmurs
   Abdomen: Soft, mildly tender, mildly distended.
   Ext: no edema, distal pulses present
   Labs / Radiology
   283 K/uL
   9.7 g/dL
   114 mg/dL
   1.1 mg/dL
   30 mEq/L
   4.6 mEq/L
   27 mg/dL
   106 mEq/L
   140 mEq/L
   31.0 %
   4.8 K/uL
        [image002.jpg]
                            [**2163-12-27**]  02:15 AM
                            [**2163-12-27**]  02:38 AM
                            [**2163-12-27**]  05:44 AM
                            [**2163-12-27**]  11:58 AM
                            [**2163-12-27**]  01:14 PM
                            [**2163-12-27**]  05:06 PM
                            [**2163-12-27**]  08:51 PM
                            [**2163-12-27**]  09:50 PM
                            [**2163-12-28**]  02:47 AM
                            [**2163-12-28**]  03:42 AM
   WBC
   3.1
   4.8
   Hct
   33.4
   31.0
   Plt
   275
   283
   Cr
   1.0
   1.1
   TCO2
   31
   28
   28
   29
   29
   31
   31
   28
   Glucose
   114
   136
   114
   Other labs: PT / PTT / INR:13.4/32.5/1.1, ALT / AST:22/43, Alk Phos / T
   Bili:69/0.3, Amylase / Lipase:/103, Lactic Acid:1.1 mmol/L, LDH:318
   IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Imaging: [**12-27**] CXR: Persistent bilateral densities as before.
   [**12-28**] CXR: worsening densities.
   Microbiology: [**12-24**] Flu positive.
   Other cultures negative to date.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   A 60 year old gentleman with HIV on HAART and new hypoxia, radiographic
   evidence of pneumonia, and influenza A
   .
   # Respiratory failure: Patient has severe influenza with possible
   overlying ARDS and/or overlying pneumonia.  There is concern for PCP
   given his history of HIV, which we are treating empirically of Bactrim
   and steroids.  His respiratory status is improving and he could
   potentially be extubated as early as tomorrow.  He would likely benefit
   from diuresis, as he is several liters positive over his length of
   stay.
   - Start diuresis with lasix boluses with goal negative 1-2 liters.
   - Check PM lytes.
   - Continue Vanc and Ceftriaxone x7 days and Azithro x5days for CAP.
   Today is day 5 of antibiotics.  Can stop Azithro tomorrow.
   - Continue Bactrim empirically. As we are empirically treating him for
   PCP, [**Name10 (NameIs) **] will also start Prednisone 40mg PO bid.
   - Oseltamivir 150mg PO BID.  Today is day 5.  Will continue until
   patient improves.
   - Will watch him through today and try to wean down FiO2 and PEEP as
   tolerated
   - Daily RSBI and SBT's
   2) Abdominal pain: Pt has mild abdominal pain today in the setting of
   constipation for several days. Lipase is mildly elevated, trending down
   and he does not have epigastric pain.  His abdominal U/S showed no
   biliary duct obstruction and KUB had no evidence of obstruction.
   Likely he just needs a more aggressive bowel regimen.
   - Will try tap-water enema and increase frequency of miralax.
   - Given elevated lipases, is on Fentanyl/Versed instead of propofol
   - Continue aggressive BM regimen
   - Trend LFT's
   .
   3) Acute Renal Failure: on admission, Cr has now normalized.
   - Trend Cr
   - Foley catheter to monitor UOP
    .
   4) Anemia: The patient's Hct is lower than baseline without recent
   evidence of bleeding.  His MCV is 80, concern for iron deficiency
   anemia.  Hemolysis unlikely but not impossible.
   - Iron studies more consistent with chronic disease but not classic
   - Haptoglobin normal so less likely to be hemolysis
   - Type and screen
   - Trend Hct's
   .
   5) HIV: Patient's HIV currently well controlled although not on HAART
   at this time due to illness.
   - restart HAART when reliably taking Pos
   - try to contact outpatient infectious disease doctor.
   .
   6) DM2: Blood sugars appear well controlled
   - Q6 ISS, no standing insulin
   .
   7) Hyperlipidemia:  Hold Atorvastatin while sorting out liver
   dysfunction.
   FEN: No IVF, replete electrolytes, tube feeds- replete w/ fiber at 80
   Prophylaxis: Subcutaneous heparin; Omeprazole 20mg PO BID
   Access: peripherals 20g x2. [**Month (only) 51**] need PICC in future
   Code:  Full (discussed with patient)
   Communication: Patient & Sister [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11689**]
   Disposition: pending clinical improvement/extubation

2163-12-28 13:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo man with HIV, CD4 363, influenza PNA.  Improving.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2163-12-27**] 07:00 PM
 ARTERIAL LINE - START [**2163-12-27**] 08:15 PM
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2163-12-28**] 08:06 AM
   Ceftriaxone - [**2163-12-28**] 10:15 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Fentanyl - [**2163-12-27**] 08:07 PM
   Midazolam (Versed) - [**2163-12-27**] 08:07 PM
   Heparin Sodium (Prophylaxis) - [**2163-12-28**] 08:00 AM
   Other medications:
   SSI
   tamiflu
   prevacid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-28**] 01:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.1
   HR: 91 (71 - 95) bpm
   BP: 99/47(63) {99/44(63) - 139/79(95)} mmHg
   RR: 20 (15 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,628 mL
                                                                  1,953 mL
   PO:
             TF:
                                                                    894 mL
                                                                  1,037 mL
   IVF:
                                                                  1,254 mL
                                                                    636 mL
   Blood products:
   Total out:
                                                                  1,695 mL
                                                                    860 mL
   Urine:
                                                                  1,695 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    933 mL
                                                                  1,093 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 611 (403 - 709) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 59
   PIP: 17 cmH2O
   Plateau: 17 cmH2O
   SpO2: 92%
   ABG: 7.40/45/82.[**Numeric Identifier 143**]/30/1
   Ve: 18.6 L/min
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   283 K/uL
   114 mg/dL
   1.1 mg/dL
   30 mEq/L
   4.6 mEq/L
   27 mg/dL
   106 mEq/L
   140 mEq/L
   31.0 %
   4.8 K/uL
        [image002.jpg]
                            [**2163-12-27**]  02:38 AM
                            [**2163-12-27**]  05:44 AM
                            [**2163-12-27**]  11:58 AM
                            [**2163-12-27**]  01:14 PM
                            [**2163-12-27**]  05:06 PM
                            [**2163-12-27**]  08:51 PM
                            [**2163-12-27**]  09:50 PM
                            [**2163-12-28**]  02:47 AM
                            [**2163-12-28**]  03:42 AM
                            [**2163-12-28**]  09:01 AM
   WBC
   4.8
   Hct
   31.0
   Plt
   283
   Cr
   1.1
   TCO2
   31
   28
   28
   29
   29
   31
   31
   28
   29
   Glucose
   136
   114
   Other labs: PT / PTT / INR:13.4/32.5/1.1, ALT / AST:22/43, Alk Phos / T
   Bili:69/0.3, Amylase / Lipase:/103, Lactic Acid:1.3 mmol/L, LDH:318
   IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):
   Influenza PNA improving.  Close to extubation.  Will try and diurese
   him and optimize function and aim towards extubation tomorrow.
   Complete course of vanco/ceftriaxone/tamiflu
   Abdominal pain:  may be due to constipation.  Did have mildly elevated
   lipase, but belly exam is benign.  Will try enema and increase miralax.
   Acute renal failure resolved.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2163-12-28**] 09:45 AM 80 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-12-26**] 01:30 AM
   Arterial Line - [**2163-12-27**] 08:15 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2163-12-29 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory failure/abdominal pain
   24 Hour Events:
   - Diuresis goal -2L for today, written for 40mg IV Lasix
   - Increased Miralax to [**Hospital1 **] and written for tap H20 enema --> had a big
   stool and now it's all liquid.
   - Emailed ID attending that he is here
   - Still having abdominal pain. Repeat KUB. Added amylase, lipase, LFT's
   to am labs. If he stools again, have put orders for Cdiff, stool O&P,
   and stool Cx (none have been done yet).
   - Ordered Simethicone
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-28**] 10:15 AM
   Vancomycin - [**2163-12-28**] 09:39 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-12-28**] 04:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-29**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 84 (81 - 102) bpm
   BP: 91/64(74) {91/47(63) - 158/95(113)} mmHg
   RR: 19 (17 - 29) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,479 mL
                                                                    861 mL
   PO:
             TF:
                                                                  1,925 mL
                                                                    549 mL
   IVF:
                                                                  1,194 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                  2,590 mL
                                                                    440 mL
   Urine:
                                                                  2,590 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    889 mL
                                                                    421 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 572 (436 - 885) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 67
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   SpO2: 91%
   ABG: 7.40/45/82.[**Numeric Identifier 143**]/29/1
   Ve: 12.7 L/min
   PaO2 / FiO2: 166
   Physical Examination
   Gen: intubated, responsive.  Awake and interactive, denies pain.
   Neck: enlarged and erythematous
   Lungs: moving air bilaterally
   Heart: NRRR; no murmurs
   Abdomen: Soft, mildly tender, mildly distended.
   Ext: no edema, distal pulses present
   Labs / Radiology
   324 K/uL
   11.0 g/dL
   106 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.5 mEq/L
   27 mg/dL
   104 mEq/L
   141 mEq/L
   34.1 %
   4.9 K/uL
        [image002.jpg]
                            [**2163-12-27**]  11:58 AM
                            [**2163-12-27**]  01:14 PM
                            [**2163-12-27**]  05:06 PM
                            [**2163-12-27**]  08:51 PM
                            [**2163-12-27**]  09:50 PM
                            [**2163-12-28**]  02:47 AM
                            [**2163-12-28**]  03:42 AM
                            [**2163-12-28**]  09:01 AM
                            [**2163-12-28**]  07:19 PM
                            [**2163-12-29**]  03:06 AM
   WBC
   4.8
   4.9
   Hct
   31.0
   34.1
   Plt
   283
   324
   Cr
   1.1
   1.0
   1.0
   TCO2
   28
   29
   29
   31
   31
   28
   29
   Glucose
   136
   114
   99
   106
   Other labs: PT / PTT / INR:13.4/32.5/1.1, ALT / AST:27/48, Alk Phos / T
   Bili:72/0.3, Amylase / Lipase:78/64, Lactic Acid:1.3 mmol/L, LDH:318
   IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Imaging: [**12-28**] CXR: no change
   [**12-29**] abdominal film: no free air,
   Microbiology: [**12-26**] BAL cx: negative
   [**12-29**] stool cx: pending
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   A 60 year old gentleman with HIV on HAART and new hypoxia, radiographic
   evidence of pneumonia, and influenza A.
   .
   # Respiratory failure: Patient has severe influenza with possible
   overlying ARDS and/or overlying pneumonia.  PCP culture negative, no
   longer giving Bactrim and prednisone.  His respiratory status is
   improving and he could potentially be extubated as early as tomorrow.
   He would likely benefit from diuresis, as he is several liters positive
   over his length of stay. Desaturated to with RSBI this morning.
   - Start diuresis with lasix gtt, titrate to UO 150-200cc/hour, goal
   negative 2L today.
   - Check PM lytes.
   - Continue Vanc and Ceftriaxone x7 days; today is day 6. Azithro course
   has been completed.
   - Oseltamivir 150mg PO BID.  Today is day 5.  Will continue until
   patient improves.
   - Will watch him through today and try to wean down FiO2 and PEEP as
   tolerated
   - Daily RSBI and SBT's
   2) Abdominal pain: Pt has mild abdominal pain today in the setting of
   constipation for several days. Lipase is mildly elevated, trending down
   and he does not have epigastric pain.  His abdominal U/S showed no
   biliary duct obstruction and KUB had no evidence of obstruction.
   Likely he just needs a more aggressive bowel regimen.
   - Follow-up final read of KUB
   - Decrease frequency of miralax
   - Given elevated lipases, is on Fentanyl/Versed instead of propofol;
   lipase trending towards normal now
   - Continue BM regimen, but less aggressive
   - Trend LFT's
   .
   3) Acute Renal Failure: on admission, Cr has now normalized.
   - Trend Cr
   - Foley catheter to monitor UOP
    .
   4) Anemia: The patient's Hct is lower than baseline without recent
   evidence of bleeding.  His MCV is 80, concern for iron deficiency
   anemia.  Hemolysis unlikely but not impossible.
   - Iron studies more consistent with chronic disease but not classic
   - Haptoglobin normal so less likely to be hemolysis
   - Type and screen
   - Trend Hct's
   .
   5) HIV: Patient's HIV currently well controlled although not on HAART
   at this time due to illness.
   - restart HAART, home regimen
   .
   6) DM2: Blood sugars appear well controlled
   - Q6 ISS, no standing insulin
   .
   7) Hyperlipidemia:  Hold Atorvastatin while sorting out liver
   dysfunction.
   FEN: No IVF, replete electrolytes, tube feeds- replete w/ fiber at 80
   Prophylaxis: Subcutaneous heparin; Omeprazole 20mg PO BID
   Access: Peripherals 20g x2. [**Month (only) 51**] need PICC in future. Place A-line
   today.
   Code:  Full (discussed with patient)
   Communication: Patient & sister [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11689**]
   Disposition: Pending clinical improvement/extubation

2163-12-29 10:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo man with HIV, admitted with Influenza PNA, respiratory failure.
   24 Hour Events:
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-28**] 10:15 AM
   Vancomycin - [**2163-12-29**] 09:15 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-12-29**] 09:15 AM
   Lansoprazole (Prevacid) - [**2163-12-29**] 09:15 AM
   Other medications:
   chlorhexidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-29**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (98.9
   HR: 84 (84 - 102) bpm
   BP: 90/74(80) {84/47(63) - 158/95(113)} mmHg
   RR: 18 (17 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,479 mL
                                                                  1,377 mL
   PO:
             TF:
                                                                  1,925 mL
                                                                    782 mL
   IVF:
                                                                  1,194 mL
                                                                    515 mL
   Blood products:
   Total out:
                                                                  2,590 mL
                                                                    615 mL
   Urine:
                                                                  2,590 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    889 mL
                                                                    762 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 547 (436 - 885) mL
   PS : 8 cmH2O
   RR (Spontaneous): 31
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 67
   RSBI Deferred: RR >35
   PIP: 17 cmH2O
   SpO2: 95%
   ABG: 7.43/49/67/29/6
   Ve: 16.7 L/min
   PaO2 / FiO2: 134
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   324 K/uL
   106 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.5 mEq/L
   27 mg/dL
   104 mEq/L
   141 mEq/L
   34.1 %
   4.9 K/uL
        [image002.jpg]
                            [**2163-12-27**]  01:14 PM
                            [**2163-12-27**]  05:06 PM
                            [**2163-12-27**]  08:51 PM
                            [**2163-12-27**]  09:50 PM
                            [**2163-12-28**]  02:47 AM
                            [**2163-12-28**]  03:42 AM
                            [**2163-12-28**]  09:01 AM
                            [**2163-12-28**]  07:19 PM
                            [**2163-12-29**]  03:06 AM
                            [**2163-12-29**]  06:49 AM
   WBC
   4.8
   4.9
   Hct
   31.0
   34.1
   Plt
   283
   324
   Cr
   1.1
   1.0
   1.0
   TCO2
   29
   29
   31
   31
   28
   29
   34
   Glucose
   114
   99
   106
   Other labs: PT / PTT / INR:13.4/32.5/1.1, ALT / AST:27/48, Alk Phos / T
   Bili:72/0.3, Amylase / Lipase:78/64, Lactic Acid:1.3 mmol/L, LDH:318
   IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Respiratory failure:  Improving, close to extubation, but still mild
   desaturation with SBT.
   Will try and diurese, so we can extubate him.   Continue tamiflu for 10
   days for influenza PNA.
   Diurese with lasix drip.
   abdominal pain: improved with BM.
   DM:  well controlled
   HIV:  can restart home HAART meds.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2163-12-29**] 08:00 AM 80 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2163-12-27**] 08:15 PM
   20 Gauge - [**2163-12-28**] 08:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2163-12-30 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory failure
   24 Hour Events:
 ARTERIAL LINE - STOP [**2163-12-29**] 10:59 AM
 ARTERIAL LINE - START [**2163-12-29**] 04:00 PM
 EKG - At [**2163-12-29**] 08:00 PM
   - Abdominal pain resolved with bowel movements.
   - diuresis: still +400 at 5pm but going up on drip.
   - Aline replaced.
   - Patient with lower sats and decreased breath sounds at 5pm. CXR
   ordered.
   - vanco increased to 1250mg [**Hospital1 7**] based on level from yesterday (dose
   wasn't increased then).
   - Lasix held at 6:30pm b/c of SBP of 88 and ? increased diaphoresis at
   same time.  Checked a CXR and ET tube up at 8cm from carina, moved down
   and repeat CXR improved.  EKG unchanged.
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-29**] 10:00 AM
   Vancomycin - [**2163-12-29**] 07:20 PM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2163-12-29**] 09:15 AM
   Furosemide (Lasix) - [**2163-12-29**] 11:10 AM
   Heparin Sodium (Prophylaxis) - [**2163-12-29**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-30**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.7
C (99.9
   HR: 90 (84 - 103) bpm
   BP: 102/58(71) {84/51(64) - 130/100(105)} mmHg
   RR: 20 (12 - 27) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,551 mL
                                                                    778 mL
   PO:
             TF:
                                                                  1,929 mL
                                                                    552 mL
   IVF:
                                                                  1,311 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                  2,485 mL
                                                                    415 mL
   Urine:
                                                                  2,485 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,066 mL
                                                                    363 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 492 (339 - 550) mL
   PS : 8 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 17 cmH2O
   SpO2: 91%
   ABG: 7.44/50/74/32/7
   Ve: 11.5 L/min
   PaO2 / FiO2: 148
   Physical Examination
   Gen: intubated, responsive.  Awake and interactive, denies pain.
   Neck: enlarged and erythematous
   Lungs: moving air bilaterally, unchanged anteriorly despite hypoxia.
   Heart: NRRR; no murmurs
   Abdomen: Soft, mildly tender, mildly distended.
   Ext: no edema, distal pulses present
   Labs / Radiology
   318 K/uL
   11.8 g/dL
   132 mg/dL
   1.0 mg/dL
   32 mEq/L
   4.3 mEq/L
   29 mg/dL
   101 mEq/L
   140 mEq/L
   36.3 %
   5.3 K/uL
        [image002.jpg]
                            [**2163-12-27**]  09:50 PM
                            [**2163-12-28**]  02:47 AM
                            [**2163-12-28**]  03:42 AM
                            [**2163-12-28**]  09:01 AM
                            [**2163-12-28**]  07:19 PM
                            [**2163-12-29**]  03:06 AM
                            [**2163-12-29**]  06:49 AM
                            [**2163-12-29**]  02:57 PM
                            [**2163-12-29**]  03:28 PM
                            [**2163-12-30**]  03:10 AM
   WBC
   4.8
   4.9
   5.3
   Hct
   31.0
   34.1
   36.3
   Plt
   [**Telephone/Fax (3) 11794**]
   Cr
   1.1
   1.0
   1.0
   1.0
   1.0
   TCO2
   31
   28
   29
   34
   35
   Glucose
   114
   99
   106
   115
   104
   132
   Other labs: PT / PTT / INR:13.4/32.5/1.1, ALT / AST:27/48, Alk Phos / T
   Bili:72/0.3, Amylase / Lipase:78/64, Lactic Acid:1.5 mmol/L, LDH:318
   IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Imaging: [**12-29**] CXR: ET tube satisfactory, otherwise unchanged.
   Microbiology: Cdiff and Urine cx negative.
   MRSA positive.
   Blood and stool cx pending.
   Influenza A positive
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   A 60 year old gentleman with HIV on HAART and new hypoxia, radiographic
   evidence of pneumonia, and influenza A.  This morning he is agitated
   with increasing O2 requirement.
   .
   # Respiratory failure:  Unclear why patient has an increased oxygen
   requirement this morning and we are unable to wean him from the vent.
   He did not do well with diuresis and he is not very fluid up on this
   admission.
   - CT chest to better evaluate his chest process and O2 requirement.
   - repeat blood and sputum cultures.
   - Continue Vanc and Ceftriaxone x7 days; today is day 7.  We will
   continue these abx until we have the chest CT.  If there is signs of
   bacterial pneumonia, we will consider broadening to include pseudomonas
   considering increasing O2.
   - Oseltamivir 150mg PO BID.  Today is day 5.  Will continue for 10 day
   course.
   - Daily RSBI and SBT's
   # Abdominal pain: Patient again says that he has abdominal pain and he
   is agitated this morning.  His abdominal U/S showed no biliary duct
   obstruction and KUB had no evidence of obstruction.  He is now
   stooling, but given that he is getting a CT scan of his lungs we will
   expand to a CT torso.
   - f/u CT torso.
   - Given elevated lipases, is on Fentanyl/Versed instead of propofol;
   lipase trending towards normal now
   - Continue BM regimen, but less aggressive
   .
   # Agitation: patient is difficult to adequately sedate with
   fentanyl/versed but had previously been relatively calm.  Unclear
   whether he has a new process going on or has new delirium.
   - repeat cultures as above.
   - continue with fent/versed for now.  Reassess in PM.
   .
   # Acute Renal Failure: on admission, Cr has now normalized.
   - Trend Cr
   - Foley catheter to monitor UOP
    .
   4) Anemia: The patient's Hct is lower than baseline without recent
   evidence of bleeding.  His MCV is 80, concern for iron deficiency
   anemia.  Hemolysis unlikely but not impossible.
   - Iron studies more consistent with chronic disease but not classic
   - Haptoglobin normal so less likely to be hemolysis
   - Type and screen
   - Trend Hct's
   .
   5) HIV: Patient's HIV currently well controlled although not on HAART
   at this time due to illness.
   - restarted HAART, home regimen
   .
   6) DM2: Blood sugars appear well controlled
   - Q6 ISS, no standing insulin
   .
   7) Hyperlipidemia:  Hold Atorvastatin while sorting out liver
   dysfunction.
   FEN: No IVF, replete electrolytes, tube feeds- replete w/ fiber at 80
   Prophylaxis: Subcutaneous heparin; Omeprazole 20mg PO BID
   Access: Peripherals 20g x2. [**Month (only) 51**] need PICC in future. Place A-line
   today.
   Code:  Full (discussed with patient)
   Communication: Patient & sister [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11689**]
   Disposition: Pending clinical improvement/extubation

2163-12-30 09:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo man with influenza PNA, overnight had episode of HOTN in setting
   of lasix drip.  It improved with holding lasix.  He sats also came down
   to high 80s.  This morning he has also been agitated and more
   tachypneic.  Vent increased to PSV 10/10 from [**9-10**].
   24 Hour Events:
 ARTERIAL LINE - STOP [**2163-12-29**] 10:59 AM
 ARTERIAL LINE - START [**2163-12-29**] 04:00 PM
 EKG - At [**2163-12-29**] 08:00 PM
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-29**] 10:00 AM
   Vancomycin - [**2163-12-29**] 07:20 PM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2163-12-29**] 09:15 AM
   Furosemide (Lasix) - [**2163-12-29**] 11:10 AM
   Heparin Sodium (Prophylaxis) - [**2163-12-29**] 04:00 PM
   Other medications:
   SSI
   tamiflu
   colace
   atrovent
   albuterol
   prevacid
   chlorhex
   miralax
   HAART
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-30**] 09:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.6
C (99.6
   HR: 94 (84 - 103) bpm
   BP: 125/108(116) {81/51(64) - 130/108(116)} mmHg
   RR: 24 (12 - 26) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,551 mL
                                                                  1,008 mL
   PO:
             TF:
                                                                  1,929 mL
                                                                    715 mL
   IVF:
                                                                  1,311 mL
                                                                    293 mL
   Blood products:
   Total out:
                                                                  2,485 mL
                                                                    442 mL
   Urine:
                                                                  2,485 mL
                                                                    442 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,066 mL
                                                                    566 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 587 (339 - 587) mL
   PS : 10 cmH2O
   RR (Spontaneous): 36
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 21 cmH2O
   SpO2: 90%
   ABG: 7.47/46/70/32/8
   Ve: 16 L/min
   PaO2 / FiO2: 140
   Physical Examination:
   Awake, following some commands, but not consistently
   Lungs with b/l rhonchi
   CV: RRR
   Abd: SOft
   Moving all 4 extremeties
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.8 g/dL
   318 K/uL
   132 mg/dL
   1.0 mg/dL
   32 mEq/L
   4.3 mEq/L
   29 mg/dL
   101 mEq/L
   140 mEq/L
   36.3 %
   5.3 K/uL
        [image002.jpg]
                            [**2163-12-28**]  02:47 AM
                            [**2163-12-28**]  03:42 AM
                            [**2163-12-28**]  09:01 AM
                            [**2163-12-28**]  07:19 PM
                            [**2163-12-29**]  03:06 AM
                            [**2163-12-29**]  06:49 AM
                            [**2163-12-29**]  02:57 PM
                            [**2163-12-29**]  03:28 PM
                            [**2163-12-30**]  03:10 AM
                            [**2163-12-30**]  08:23 AM
   WBC
   4.8
   4.9
   5.3
   Hct
   31.0
   34.1
   36.3
   Plt
   [**Telephone/Fax (3) 11794**]
   Cr
   1.1
   1.0
   1.0
   1.0
   1.0
   TCO2
   28
   29
   34
   35
   34
   Glucose
   114
   99
   106
   115
   104
   132
   Other labs: PT / PTT / INR:13.4/32.5/1.1, ALT / AST:27/48, Alk Phos / T
   Bili:72/0.3, Amylase / Lipase:78/64, Lactic Acid:1.5 mmol/L, LDH:318
   IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Influenza PNA:  continue tamiflu
   Unable to wean off vent
 there is a component of hypoxemia so doubtful
   that this is just agitation.   Will get CT chest
   And also r/o intrabdominal pathology with CT abdomen.
   Sedation:  continue versed/fentanyl
   Continue HIV meds.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2163-12-30**] 06:14 AM 80 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-12-28**] 08:35 PM
   Arterial Line - [**2163-12-29**] 04:00 PM
   22 Gauge - [**2163-12-29**] 04:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :  ICU
   Total time spent:   Critically Ill 35 minutes

2163-12-31 10:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ARDS
   24 Hour Events:
 PAN CULTURE - At [**2163-12-30**] 09:00 AM
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-30**] 10:00 AM
   Vancomycin - [**2163-12-31**] 08:02 AM
   Infusions:
   Fentanyl - 5 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-12-31**] 08:02 AM
   Pantoprazole (Protonix) - [**2163-12-31**] 08:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-31**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 91 (80 - 99) bpm
   BP: 114/63(79) {84/57(70) - 150/87(108)} mmHg
   RR: 22 (12 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,358 mL
                                                                    861 mL
   PO:
             TF:
                                                                  1,413 mL
                                                                    515 mL
   IVF:
                                                                    955 mL
                                                                    286 mL
   Blood products:
   Total out:
                                                                  1,457 mL
                                                                    780 mL
   Urine:
                                                                  1,457 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,901 mL
                                                                     81 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 552 (519 - 612) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 93%
   ABG: 7.44/42/90.[**Numeric Identifier 126**]/30/3
   Ve: 11.1 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   370 K/uL
   10.9 g/dL
   116 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.8 mEq/L
   25 mg/dL
   100 mEq/L
   137 mEq/L
   34.6 %
   7.2 K/uL
        [image002.jpg]
                            [**2163-12-28**]  09:01 AM
                            [**2163-12-28**]  07:19 PM
                            [**2163-12-29**]  03:06 AM
                            [**2163-12-29**]  06:49 AM
                            [**2163-12-29**]  02:57 PM
                            [**2163-12-29**]  03:28 PM
                            [**2163-12-30**]  03:10 AM
                            [**2163-12-30**]  08:23 AM
                            [**2163-12-30**]  05:44 PM
                            [**2163-12-31**]  03:46 AM
   WBC
   4.9
   5.3
   7.2
   Hct
   34.1
   36.3
   34.6
   Plt
   324
   318
   370
   Cr
   1.0
   1.0
   1.0
   1.0
   0.9
   TCO2
   29
   34
   35
   34
   29
   Glucose
   99
   106
   115
   104
   132
   116
   Other labs: PT / PTT / INR:13.4/32.5/1.1, ALT / AST:49/59, Alk Phos / T
   Bili:84/0.3, Amylase / Lipase:78/64, Lactic Acid:1.5 mmol/L, LDH:309
   IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR [**12-30**]
   1. Patchy ground-glass opacity in the left upper lobe of the lung is
   nonspecific and could represent an infectious or inflammatory process;
   bibasilar atelectasis is noted without pleural effusion.
   2. Multiple mediastinal lymph nodes that do not meet pathologic size
   criteria
   and may simply be reactive lymph nodes.
   3. No evidence of acute intraabdominal process
   Microbiology: [**2163-12-30**] 10:50 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2163-12-30**]):
        <10 PMNs and <10 epithelial cells/100X field.     1+    (<1 per
   1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   (+) MRSA screen
   (+) DFA
   Assessment and Plan
   A 60 year old gentleman with HIV on HAART and new hypoxia, radiographic
   evidence of pneumonia, and influenza A.  This morning he is agitated
   with increasing O2 requirement.
   .
   # Respiratory failure:  Unclear why patient has an increased oxygen
   requirement this morning and we are unable to wean him from the vent.
   He did not do well with diuresis and he is not very fluid up on this
   admission. CT chest w/ ground glass and not effusions.
   - f/u repeat blood and sputum cultures. Only (+) for yeast at this
   point.
   - Completed 7 days of Vanc and Ceftriaxone.  CT chest shows PNA still
   present.  Should add cipro and change to cefipime for pseudomonas
   coverage.
   - Oseltamivir 150mg PO BID.  Today is day 5.  Will continue for 10 day
   course.
   - Daily RSBI and SBT's
   .
   # Abdominal pain: Patient again says that he has abdominal pain and he
   is agitated this morning.  His abdominal U/S showed no biliary duct
   obstruction and KUB had no evidence of obstruction.  He is now
   stooling, but given that he is getting a CT scan of his lungs we will
   expand to a CT torso. No cause of abdominal pain seen on CT scan.
   - Given elevated lipases, is on Fentanyl/Versed instead of propofol;
   lipase trending towards normal now
   - Continue BM regimen, but less aggressive
   .
   # Metabolic Alkalosis: would appear that has metabolic acidosis that is
   compensated, but since on vent could be that had resp acidosis w/
   metabolic compensation and has started to hyperventilate acutely.  An
   acute resp alkalosis on a compensated resp acidosis.
   - Treat resp distress
   .
   # Agitation: patient is difficult to adequately sedate with
   fentanyl/versed but had previously been relatively calm.  Unclear
   whether he has a new process going on or has new delirium.
   - repeat cultures as above.
   - continue with fent/versed for now.  Reassess in PM.
   .
   # Acute Renal Failure: on admission, Cr has now normalized.
   - Trend Cr
   - Foley catheter to monitor UOP
    .
   4) Anemia: The patient's Hct is lower than baseline without recent
   evidence of bleeding.  His MCV is 80, concern for iron deficiency
   anemia.  Hemolysis unlikely but not impossible.
   - Iron studies more consistent with chronic disease but not classic
   - Haptoglobin normal so less likely to be hemolysis
   - Type and screen
   - Trend Hct's
   .
   5) HIV: Patient's HIV currently well controlled although not on HAART
   at this time due to illness.
   - restarted HAART, home regimen
   .
   6) DM2: Blood sugars appear well controlled
   - Q6 ISS, no standing insulin
   .
   7) Hyperlipidemia:  Hold Atorvastatin while sorting out liver
   dysfunction.
   FEN: No IVF, replete electrolytes, tube feeds- replete w/ fiber at 80
   Prophylaxis: Subcutaneous heparin; Omeprazole 20mg PO BID
   Access: Peripherals 20g x2. [**Month (only) 51**] need PICC in future. Place A-line
   today.
   Code:  Full (discussed with patient)
   Communication: Patient & sister [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11689**]
   Disposition: Pending clinical improvement/extubation
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2163-12-31**] 07:57 AM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-12-28**] 08:35 PM
   Arterial Line - [**2163-12-29**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2163-12-31 11:35:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2164-01-01 11:04:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   LENI's performed; no clot seen.
   With decreaed PEEP, oxygenation improved. On 50% supplemental oxygen
   now. RSBI 92 this morning.
   Hct trending downward.
   Still febrile.
   24 Hour Events:
 BLOOD CULTURED - At [**2164-1-1**] 02:00 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Inrtubated
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-31**] 10:28 AM
   Vancomycin - [**2164-1-1**] 08:06 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-1-1**] 08:05 AM
   Lansoprazole (Prevacid) - [**2164-1-1**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-1**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (100.9
   HR: 94 (78 - 108) bpm
   BP: 94/52(63) {82/49(62) - 151/73(97)} mmHg
   RR: 14 (9 - 31) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,962 mL
                                                                    967 mL
   PO:
             TF:
                                                                  1,210 mL
                                                                    539 mL
   IVF:
                                                                    692 mL
                                                                    308 mL
   Blood products:
   Total out:
                                                                  1,505 mL
                                                                    570 mL
   Urine:
                                                                  1,505 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    457 mL
                                                                    397 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 574 (375 - 574) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 92
   PIP: 15 cmH2O
   SpO2: 92%
   ABG: 7.45/45/109/32/6
   Ve: 14.8 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+ edema, Left lower
   extremity edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   434 K/uL
   109 mg/dL
   1.0 mg/dL
   32 mEq/L
   4.3 mEq/L
   27 mg/dL
   103 mEq/L
   141 mEq/L
   31.9 %
   7.1 K/uL
        [image002.jpg]
                            [**2163-12-29**]  03:06 AM
                            [**2163-12-29**]  06:49 AM
                            [**2163-12-29**]  02:57 PM
                            [**2163-12-29**]  03:28 PM
                            [**2163-12-30**]  03:10 AM
                            [**2163-12-30**]  08:23 AM
                            [**2163-12-30**]  05:44 PM
                            [**2163-12-31**]  03:46 AM
                            [**2163-12-31**]  11:23 PM
                            [**2164-1-1**]  01:37 AM
   WBC
   4.9
   5.3
   7.2
   7.1
   Hct
   34.1
   36.3
   34.6
   31.9
   Plt
   324
   318
   370
   434
   Cr
   1.0
   1.0
   1.0
   0.9
   1.0
   TCO2
   34
   35
   34
   29
   32
   Glucose
   106
   115
   104
   132
   116
   109
   Other labs: PT / PTT / INR:13.4/32.5/1.1, ALT / AST:46/42, Alk Phos / T
   Bili:83/0.3, Amylase / Lipase:78/64, Lactic Acid:1.5 mmol/L,
   Albumin:3.1 g/dL, LDH:172 IU/L, Ca++:9.1 mg/dL, Mg++:2.5 mg/dL, PO4:4.4
   mg/dL
   Imaging: CXR: increased haziness at bases compared to prior film.
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   PNEUMONIA
   ANEMIA
   ===============
   Respiratory status slowly improving. Have reduced FIO2 to 0.4 on
   rounds. If he tolerates this, would decrease PSV to [**6-7**] later today. If
   oxygenation worsens with decreased positive pressure, consider
   diuresis. Patient appears somewhat sedated on seroquel today. Observe
   through the day. Continue antibiotics. LENIs negative for clot.
   Hct down slightly. No evidence of bleeding. Not at transfusion
   threshold.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-1-1**] 03:42 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2163-12-29**] 04:00 PM
   18 Gauge - [**2163-12-31**] 08:00 PM
   20 Gauge - [**2163-12-31**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2164-01-02 10:59:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo man with HIV on HAART, admitted with influenza PNA.  Febrile this
   morning.
   24 Hour Events:
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2164-1-2**] 07:59 AM
   Ceftriaxone - [**2164-1-2**] 10:06 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-1-2**] 07:51 AM
   Other medications:
   insulin
   tamiflu
   colace
   atrovent/albuterol
   prevacid
   chlorhex
   HAART
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-2**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.8
C (101.8
   HR: 91 (79 - 109) bpm
   BP: 105/59(75) {70/48(60) - 114/78(89)} mmHg
   RR: 19 (2 - 37) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 124.4 kg (admission): 122.3 kg
   Height: 68 Inch
             Total In:
                                                                  2,174 mL
                                                                  1,032 mL
   PO:
             TF:
                                                                  1,222 mL
                                                                    539 mL
   IVF:
                                                                    712 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                    560 mL
   Urine:
                                                                  1,210 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    964 mL
                                                                    472 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 443 (443 - 491) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 92%
   ABG: 7.47/42/62/29/6
   Ve: 12.2 L/min
   PaO2 / FiO2: 155
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Non -purposeful, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   449 K/uL
   100 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.8 mEq/L
   27 mg/dL
   103 mEq/L
   140 mEq/L
   33.2 %
   7.8 K/uL
        [image002.jpg]
                            [**2163-12-30**]  08:23 AM
                            [**2163-12-30**]  05:44 PM
                            [**2163-12-31**]  03:46 AM
                            [**2163-12-31**]  11:23 PM
                            [**2164-1-1**]  01:37 AM
                            [**2164-1-1**]  01:00 PM
                            [**2164-1-2**]  01:43 AM
                            [**2164-1-2**]  02:24 AM
                            [**2164-1-2**]  05:58 AM
                            [**2164-1-2**]  10:06 AM
   WBC
   7.2
   7.1
   7.8
   Hct
   34.6
   31.9
   33.2
   Plt
   370
   434
   449
   Cr
   0.9
   1.0
   1.0
   TCO2
   34
   29
   32
   34
   34
   27
   31
   Glucose
   116
   109
   100
   Other labs: PT / PTT / INR:13.4/32.5/1.1, ALT / AST:41/45, Alk Phos / T
   Bili:82/0.3, Amylase / Lipase:78/64, Lactic Acid:1.5 mmol/L,
   Albumin:3.1 g/dL, LDH:205 IU/L, Ca++:8.8 mg/dL, Mg++:2.5 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Respiratory failure:  relatively hypoxemic on FiO2.  Increase FiO2 and
   try and reduce PEEP.
   Fevers:  new fevers.  Will broaden CTX to cefepime for coverage of
   VAP.  Continue vanco.
   HIV:  continue his HAART
   DM:  on SSI.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-1-2**] 09:17 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2163-12-29**] 04:00 PM
   18 Gauge - [**2163-12-31**] 08:00 PM
   20 Gauge - [**2163-12-31**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2164-01-03 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.8
F - [**2164-1-2**] 10:00 AM
   - Started zosyn and vanco, stopped other antibiotics
   Vanc level pending
   - Low BP, given 500cc fluid bolus.
   Decreased PEEP and increased FiO2 from 40% to 50%. Tolerated well,
   planning to wean down FIO2 as tolerated.  However, had episode of desat
   requiring FiO2 up to 60 and Peep up to 10, with subsequent PO2 in low
   90
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-1-2**] 10:06 AM
   Vancomycin - [**2164-1-2**] 08:00 PM
   Cefipime - [**2164-1-3**] 12:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-1-3**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-3**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.4
C (99.3
   HR: 92 (78 - 100) bpm
   BP: 116/67(83) {90/59(69) - 156/92(113)} mmHg
   RR: 23 (17 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 124.4 kg (admission): 122.3 kg
   Height: 68 Inch
             Total In:
                                                                  3,271 mL
                                                                    550 mL
   PO:
             TF:
                                                                  1,205 mL
                                                                    366 mL
   IVF:
                                                                  1,826 mL
                                                                    184 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                    370 mL
   Urine:
                                                                  1,375 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,896 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 8
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.40/52/87.[**Numeric Identifier 181**]/26/5
   Ve: 12.2 L/min
   PaO2 / FiO2: 147
   Physical Examination
   Gen: sedated and intubated on vent, grimaces to pain but not following
   commands.
   CV:  RRR, no m/g/r
   Chest:  Equal BS b/l
   Abdomen: Obese, soft, quiet bowel sounds
   Ext: 1+ edema, warm and well perfused with 2+ DP b/l
   Labs / Radiology
   420 K/uL
   9.5 g/dL
   115 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.1 mEq/L
   25 mg/dL
   107 mEq/L
   140 mEq/L
   29.5 %
   8.8 K/uL
        [image002.jpg]
                            [**2164-1-1**]  01:37 AM
                            [**2164-1-1**]  01:00 PM
                            [**2164-1-2**]  01:43 AM
                            [**2164-1-2**]  02:24 AM
                            [**2164-1-2**]  05:58 AM
                            [**2164-1-2**]  10:06 AM
                            [**2164-1-2**]  09:24 PM
                             [**2164-1-3**]  12:03 AM
                             [**2164-1-3**]  03:20 AM
                             [**2164-1-3**]  03:36 AM
   WBC
   7.1
   7.8
   8.8
   Hct
   31.9
   33.2
   29.5
   Plt
   [**Telephone/Fax (3) 11853**]
   Cr
   1.0
   1.0
   0.9
   TCO2
   34
   34
   27
   31
   32
   31
   33
   Glucose
   109
   100
   125
   115
   Other labs: PT / PTT / INR:13.4/32.5/1.1, ALT / AST:33/35, Alk Phos / T
   Bili:73/0.3, Amylase / Lipase:78/64, Lactic Acid:1.5 mmol/L,
   Albumin:3.1 g/dL, LDH:199 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.8
   mg/dL
   Imaging: [**1-3**] CXR
   Microbiology: [**1-2**] UCx, bcx pending
   [**1-1**] bcx pnd
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   A 60 year old gentleman with HIV on HAART and new hypoxia, radiographic
   evidence of pneumonia, and influenza A.  This morning he remains on AC
   after becoming tachypneic with attempts to wean to PSV.
   .
   # Fever:  Unknown source of fever, given patient is on Vanc/Ceftriaxone
   and Tamiflu for influenza and bacterial superinfection/ARDS.  Will r/o
   typical causes with bcx, ucx, sputum cx.  Continue current antibiotics
   until cultures return.
   - Blood cx, urine cx, sputum cx.  CXR was obtained this morning.
   - Continue Cefepime and Vanc for influenza with bacterial
   superinfection vs. ARDS.
   - Goal I/O even with 500cc NS at 75cc/hr to replace insensible losses
   - Given diarrhea, send C. diff stool studies
   - Legionella urine antigen and culture
   - Bronchoscopy today to r/o respiratory infections, including PCP
   .
   # Respiratory failure:  No signs of PE on CT or DVT w/ LENI
s.  Remains
   difficult to wean off vent with tachypnea on PSV, despite prior
   improvement with a lower PEEP and on pressure support.  Most likely
   cause for his respiratory failure remains influenza with bacterial
   superinfection or ARDS.
   - Goal I/O even, as above
   - wean vent; decrease PEEP and FIO2 as tolerated
   - f/u repeat blood and sputum cultures
 negative to date. Only (+) for
   yeast at this point.
   - Completed 10/10 days of Vanc and Ceftriaxone, switched to Cefepime
   [**1-2**].  CT chest shows PNA still present.
   - Oseltamivir 150mg PO BID for 10 day course (today is day 10).
   - No need for esophageal balloon as PEEP now lower.
   .
   Less active or resolved problems:
   .
   # Abdominal pain: Patient without abdominal pain this morning and his
   CT abdomen showed no acute process.  His abdominal U/S showed no
   biliary duct obstruction and KUB had no evidence of obstruction.  He is
   now stooling.
   - Given elevated lipases, is on Fentanyl/Versed instead of propofol;
   lipase trending towards normal most recently.
   - Continue BM regimen as needed
   - Continue to monitor, seems to have stabilized
   .
   # Metabolic Alkalosis: would appear that has metabolic acidosis that is
   compensated, but since on vent could be that had resp acidosis w/
   metabolic compensation and has started to hyperventilate acutely.  An
   acute resp alkalosis on a compensated resp acidosis.
   - Treat resp distress
   .
   # Agitation: has a significant component of anxiety contributing to
   respiratory alkalosis and agitation when weaned.  Did well with
   seroquel, with improvement in agitation.
   - continue with fent/versed for now.
   - continue seroquel.
   .
   # Acute Renal Failure: Initially on admission, Cr has now normalized.
   - Foley catheter to monitor UOP
    .
   # Anemia: Hct is lower than baseline without recent evidence of
   bleeding.  His MCV is 80, concern for iron deficiency anemia.
   Hemolysis unlikely w/ normal haptoglobin.  Currently stable.
   - Iron studies more consistent with chronic disease but not classic
   - Trend Hct's
   .
   5) HIV: Patient's HIV currently well controlled although not on HAART
   initially due to illness, re-started HAART regimen.
   - Continue HAART, home regimen
   .
   6) DM2: Blood sugars appear well controlled
   - Q6 ISS, no standing insulin
   .
   7) Hyperlipidemia:  Hold Atorvastatin while sorting out liver
   dysfunction.
   FEN: No IVF, replete electrolytes, tube feeds- replete w/ fiber at 80
   Prophylaxis: Subcutaneous heparin; Omeprazole 20mg PO BID
   Access: Peripherals 20g x2. A-line.  He may need more central access as
   his peripherals are not very dependable.
   Code:  Full (discussed with patient)
   Communication: Patient & sister [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11689**]
   Disposition: Pending clinical improvement/extubation
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-1-3**] 05:12 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2163-12-29**] 04:00 PM
   18 Gauge - [**2163-12-31**] 08:00 PM
   20 Gauge - [**2163-12-31**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-01-03 10:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo man with HIV, influenza PNA, ARDS.  Patient desaturated overnight
   requiring
   increasd FiO2 and peep.  Continued fevers.
   24 Hour Events:
 FEVER - 101.8
F - [**2164-1-2**] 10:00 AM
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-1-2**] 10:06 AM
   Cefipime - [**2164-1-3**] 12:00 AM
   Vancomycin - [**2164-1-3**] 09:06 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-1-3**] 07:48 AM
   Other medications:
   s/q heparin
   tamiflu
   prevacid
   HAART
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-3**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.5
C (99.5
   HR: 88 (78 - 100) bpm
   BP: 115/69(84) {90/59(69) - 156/92(113)} mmHg
   RR: 13 (12 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 124.4 kg (admission): 122.3 kg
   Height: 68 Inch
             Total In:
                                                                  3,271 mL
                                                                  1,003 mL
   PO:
             60 mL
   TF:
                                                                  1,205 mL
                                                                    523 mL
   IVF:
                                                                  1,826 mL
                                                                    420 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                    400 mL
   Urine:
                                                                  1,375 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,896 mL
                                                                    603 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 8
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 94%
   ABG: 7.40/52/87.[**Numeric Identifier 181**]/26/5
   Ve: 11.7 L/min
   PaO2 / FiO2: 147
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   420 K/uL
   115 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.1 mEq/L
   25 mg/dL
   107 mEq/L
   140 mEq/L
   29.5 %
   8.8 K/uL
        [image002.jpg]
                            [**2164-1-1**]  01:37 AM
                            [**2164-1-1**]  01:00 PM
                            [**2164-1-2**]  01:43 AM
                            [**2164-1-2**]  02:24 AM
                            [**2164-1-2**]  05:58 AM
                            [**2164-1-2**]  10:06 AM
                            [**2164-1-2**]  09:24 PM
                             [**2164-1-3**]  12:03 AM
                             [**2164-1-3**]  03:20 AM
                             [**2164-1-3**]  03:36 AM
   WBC
   7.1
   7.8
   8.8
   Hct
   31.9
   33.2
   29.5
   Plt
   [**Telephone/Fax (3) 11853**]
   Cr
   1.0
   1.0
   0.9
   TCO2
   34
   34
   27
   31
   32
   31
   33
   Glucose
   109
   100
   125
   115
   Other labs: PT / PTT / INR:13.4/32.5/1.1, ALT / AST:33/35, Alk Phos / T
   Bili:73/0.3, Amylase / Lipase:78/64, Lactic Acid:1.5 mmol/L,
   Albumin:3.1 g/dL, LDH:199 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Respiratory failure:  Still unable to wean due to hypoxemia.  Chest CT
   only showed patchy ground glass.
   Will rebronch today to r/o PCP.
   [**Name10 (NameIs) 133**] try and wean to PSV.
   Fevers:  will check stool for C. diff.
   HIV.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-1-3**] 05:12 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2163-12-29**] 04:00 PM
   18 Gauge - [**2163-12-31**] 08:00 PM
   20 Gauge - [**2163-12-31**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2164-01-04 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2164-1-3**] 03:00 PM
 BLOOD CULTURED - At [**2164-1-3**] 10:47 PM
 URINE CULTURE - At [**2164-1-3**] 10:48 PM
 FEVER - 101.3
F - [**2164-1-3**] 09:00 PM
 pan-cultured
   Completed 10-day course of tamiflu last night.
   Bronch: 2+PMN and no microorganisms.
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-1-2**] 10:06 AM
   Vancomycin - [**2164-1-3**] 08:00 PM
   Cefipime - [**2164-1-4**] 06:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-1-4**] 12:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-4**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.7
C (99.9
   HR: 81 (75 - 96) bpm
   BP: 124/97(103) {101/60(74) - 139/97(103)} mmHg
   RR: 21 (11 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 124.4 kg (admission): 122.3 kg
   Height: 68 Inch
             Total In:
                                                                  2,101 mL
                                                                    530 mL
   PO:
                                                                     60 mL
             TF:
                                                                  1,204 mL
                                                                    343 mL
   IVF:
                                                                    737 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                    370 mL
   Urine:
                                                                  1,425 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    676 mL
                                                                    160 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 100%
   ABG: ////
   Ve: 10.9 L/min
   Physical Examination
   GEN: nad, sedated
   NECK: enlarged
   Cv: RRR, no m/r/g
   Pulm: CTAB
   ABD: obese, soft, nt
   EXTR: 1+ b/l edema
   Labs / Radiology
   477 K/uL
   9.0 g/dL
   115 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.1 mEq/L
   25 mg/dL
   107 mEq/L
   140 mEq/L
   28.9 %
   9.6 K/uL
        [image002.jpg]
                            [**2164-1-1**]  01:00 PM
                            [**2164-1-2**]  01:43 AM
                            [**2164-1-2**]  02:24 AM
                            [**2164-1-2**]  05:58 AM
                            [**2164-1-2**]  10:06 AM
                            [**2164-1-2**]  09:24 PM
                             [**2164-1-3**]  12:03 AM
                             [**2164-1-3**]  03:20 AM
                             [**2164-1-3**]  03:36 AM
                             [**2164-1-4**]  04:42 AM
   WBC
   7.8
   8.8
   9.6
   Hct
   33.2
   29.5
   28.9
   Plt
   449
   420
   477
   Cr
   1.0
   0.9
   TCO2
   34
   34
   27
   31
   32
   31
   33
   Glucose
   100
   125
   115
   Other labs: PT / PTT / INR:13.4/32.5/1.1, ALT / AST:33/35, Alk Phos / T
   Bili:73/0.3, Amylase / Lipase:78/64, Lactic Acid:1.5 mmol/L,
   Albumin:3.1 g/dL, LDH:199 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.8
   mg/dL
   WBC has climbed daily all week from ~4 to ~9.
   Cdiff negative
   Urine legionella negative
   BAL pending
   Resp viral antigen screen
 negative
[**12-30**] Sputum culture: YEAST.    SPARSE GROWTH.
      STAPH AUREUS COAG +.    RARE GROWTH.
 STAPH AUREUS COAG +
                             |
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------   <=1 S
= MRSA
   Blood cultures all pending.
   CXR (my read): increased vascular fullness at the right compared to
   prior.
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   A 60 year old gentleman with HIV on HAART and new hypoxia, radiographic
   evidence of pneumonia, and influenza A.  This morning he remains on AC
   after becoming tachypneic with attempts to wean to PSV.
   .
   # Fever:  Unknown source of fever, given patient is on Vanc/Ceftriaxone
   for bacterial superinfection/ARDS.  Has completed 10-day course of
   Tamiflu. Will r/o typical causes with bcx, ucx, sputum cx.  Continue
   current antibiotics until cultures return. Fever last night could be
   continued infection, or post-bronchoscopy reaction.
   - F/u pan-culture and CXR
   - Continue Cefepime and Vanc for influenza with bacterial
   superinfection vs. ARDS.
   - Goal I/O zero to negative 500
   - F/u Bronchoscopy results
   .
   # Respiratory failure:  No signs of PE on CT or DVT w/ LENI
s.  Remains
   difficult to wean off vent with tachypnea on PSV, despite prior
   improvement with a lower PEEP and on pressure support.  Most likely
   cause for his respiratory failure remains influenza with bacterial
   superinfection or ARDS.
   - Goal I/O zero to -500, as above
   - wean vent; decrease PEEP to 8 is today
s goal (then consider pressure
   support trial if possible)
   - f/u repeat blood and sputum cultures
 negative to date. Only (+) for
   yeast and MRSA at this point.
   - Completed 10/10 days of Vanc and Ceftriaxone, switched to Cefepime
   [**1-2**].  CT chest shows PNA still present.
   - Oseltamivir 150mg PO BID for 10 day course
 completed on [**1-3**]
   - No need for esophageal balloon as PEEP now lower.
   .
   Less active or resolved problems:
   .
   # Abdominal pain: Patient without abdominal pain this morning and his
   CT abdomen showed no acute process.  His abdominal U/S showed no
   biliary duct obstruction and KUB had no evidence of obstruction.  He is
   now stooling. C.diff negative.
   - Given elevated lipases, is on Fentanyl/Versed instead of propofol;
   lipase trending towards normal most recently.
   - Continue BM regimen prn
   - Continue to monitor, seems to have stabilized
   .
   # Metabolic Alkalosis: would appear that has metabolic acidosis that is
   compensated, but since on vent could be that had resp acidosis w/
   metabolic compensation and had started to hyperventilate acutely.  An
   acute resp alkalosis on a compensated resp acidosis.
   - Treat resp distress
   - Follow ABG
   .
   # Agitation: has a significant component of anxiety contributing to
   respiratory alkalosis and agitation when weaned.  Did well with
   seroquel, with improvement in agitation.
   - continue with fent/versed for now.
   - continue seroquel.
   .
   # Acute Renal Failure: Initially on admission, Cr has now normalized.
   - Foley catheter to monitor UOP
    .
   # Anemia: Hct is lower than baseline without recent evidence of
   bleeding.  His MCV is 80, concern for iron deficiency anemia.
   Hemolysis unlikely w/ normal haptoglobin.  Currently stable.
   - Iron studies more consistent with chronic disease but not classic
   - Trend Hct's
   .
   5) HIV: Patient's HIV currently well controlled although not on HAART
   initially due to illness, re-started HAART regimen.
   - Continue HAART, home regimen
   .
   6) DM2: Blood sugars appear well controlled
   - Q6 ISS, no standing insulin
   .
   7) Hyperlipidemia:  Hold Atorvastatin while sorting out liver
   dysfunction.
   .
   FEN: No IVF, replete electrolytes, tube feeds- replete w/ fiber at 80
   Prophylaxis: Subcutaneous heparin; Omeprazole 20mg PO BID
   Access: Peripherals 20g x2. A-line.  He may need more central access as
   his peripherals are not very dependable
 place right central line
   (subclavian) today.
   Code:  Full (discussed with patient)
   Communication: Patient & sister [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11689**]
   Disposition: Pending clinical improvement/extubation
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-1-4**] 01:09 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2163-12-29**] 04:00 PM
   18 Gauge - [**2163-12-31**] 08:00 PM
   20 Gauge - [**2163-12-31**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-01-04 15:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo man with influenza PNA, respiratory failure.  Persistent
   hypoxemia, fevers.  S/p bronch yesterday.
   FiO2 decreased to 0.5 yesterday
   24 Hour Events:
 BRONCHOSCOPY - At [**2164-1-3**] 03:00 PM
 BLOOD CULTURED - At [**2164-1-3**] 10:47 PM
 URINE CULTURE - At [**2164-1-3**] 10:48 PM
 FEVER - 101.3
F - [**2164-1-3**] 09:00 PM
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-1-2**] 10:06 AM
   Cefipime - [**2164-1-4**] 06:00 AM
   Vancomycin - [**2164-1-4**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-1-4**] 09:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-4**] 03:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.2
C (99
   HR: 93 (75 - 96) bpm
   BP: 108/58(73) {94/58(71) - 139/99(103)} mmHg
   RR: 25 (11 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 124.4 kg (admission): 122.3 kg
   Height: 68 Inch
             Total In:
                                                                  2,102 mL
                                                                  1,271 mL
   PO:
                                                                     60 mL
             TF:
                                                                  1,204 mL
                                                                    777 mL
   IVF:
                                                                    737 mL
                                                                    334 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                    790 mL
   Urine:
                                                                  1,425 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    677 mL
                                                                    481 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 93%
   ABG: ///31/
   Ve: 13.4 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, Tone: Not assessed, opens
   eyes to voice.
   Labs / Radiology
   9.0 g/dL
   477 K/uL
   108 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.5 mEq/L
   24 mg/dL
   103 mEq/L
   141 mEq/L
   28.9 %
   9.6 K/uL
        [image002.jpg]
                            [**2164-1-1**]  01:00 PM
                            [**2164-1-2**]  01:43 AM
                            [**2164-1-2**]  02:24 AM
                            [**2164-1-2**]  05:58 AM
                            [**2164-1-2**]  10:06 AM
                            [**2164-1-2**]  09:24 PM
                             [**2164-1-3**]  12:03 AM
                             [**2164-1-3**]  03:20 AM
                             [**2164-1-3**]  03:36 AM
                             [**2164-1-4**]  04:42 AM
   WBC
   7.8
   8.8
   9.6
   Hct
   33.2
   29.5
   28.9
   Plt
   449
   420
   477
   Cr
   1.0
   0.9
   0.9
   TCO2
   34
   34
   27
   31
   32
   31
   33
   Glucose
   100
   125
   115
   108
   Other labs: PT / PTT / INR:13.1/25.8/1.1, ALT / AST:30/32, Alk Phos / T
   Bili:76/0.4, Amylase / Lipase:78/64, Lactic Acid:1.5 mmol/L,
   Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Respiratory failure:  continue to wean Peep and FiO2
   fevers/PNA:  completed course of tamiflu for influenza PNA.  can remove
   from droplet precautions.
   Being treated now for VAP with vanco/cefepime.
   follow up on bronch results.
   DM control
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-1-4**] 10:56 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2163-12-29**] 04:00 PM
   18 Gauge - [**2163-12-31**] 08:00 PM
   20 Gauge - [**2163-12-31**] 08:00 PM
   Multi Lumen - [**2164-1-4**] 03:11 PM
   Comments: will place central line.
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2164-01-05 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2164-1-4**] 03:11 PM
 BLOOD CULTURED - At [**2164-1-5**] 01:30 AM
 URINE CULTURE - At [**2164-1-5**] 01:30 AM
 FEVER - 101.8
F - [**2164-1-5**] 01:00 AM
   Gave 20 lasix to help meet goal of even to -500cc
   right subclavian line placed by [**Doctor First Name **]
   trying to decrease PEEP overnight
   bronch: no PCP
   spiked temp, so blood and urine cultured
   a-line drawing difficult
   stop droplet precautions? (let's just double-check this with ID this
   morning)
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-1-2**] 10:06 AM
   Vancomycin - [**2164-1-4**] 07:48 PM
   Cefipime - [**2164-1-5**] 06:17 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-1-5**] 12:00 AM
   Furosemide (Lasix) - [**2164-1-5**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-5**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.7
C (99.8
   HR: 98 (83 - 99) bpm
   BP: 130/73(90) {94/57(71) - 142/99(103)} mmHg
   RR: 21 (17 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 123 kg (admission): 122.3 kg
   Height: 68 Inch
             Total In:
                                                                  2,063 mL
                                                                    587 mL
   PO:
             TF:
                                                                  1,211 mL
                                                                    346 mL
   IVF:
                                                                    632 mL
                                                                    141 mL
   Blood products:
   Total out:
                                                                  1,445 mL
                                                                    840 mL
   Urine:
                                                                  1,445 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    618 mL
                                                                   -253 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 94%
   ABG: ///27/
   Ve: 10.5 L/min
   Physical Examination
   GEN: nad, sedated
   NECK: enlarged
   Cv: RRR, no m/r/g
   Pulm: CTAB
   ABD: obese, soft, nt
   EXTR: 1+ b/l edema
   Labs / Radiology
   530 K/uL
   9.1 g/dL
   103 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.3 mEq/L
   23 mg/dL
   103 mEq/L
   139 mEq/L
   28.1 %
   9.4 K/uL
        [image002.jpg]
                            [**2164-1-2**]  01:43 AM
                            [**2164-1-2**]  02:24 AM
                            [**2164-1-2**]  05:58 AM
                            [**2164-1-2**]  10:06 AM
                            [**2164-1-2**]  09:24 PM
                             [**2164-1-3**]  12:03 AM
                             [**2164-1-3**]  03:20 AM
                             [**2164-1-3**]  03:36 AM
                             [**2164-1-4**]  04:42 AM
                             [**2164-1-5**]  04:11 AM
   WBC
   7.8
   8.8
   9.6
   9.4
   Hct
   33.2
   29.5
   28.9
   28.1
   Plt
   449
   420
   477
   530
   Cr
   1.0
   0.9
   0.9
   1.1
   TCO2
   34
   27
   31
   32
   31
   33
   Glucose
   100
   125
   115
   108
   103
   Other labs: PT / PTT / INR:13.1/25.8/1.1, ALT / AST:30/32, Alk Phos / T
   Bili:76/0.4, Amylase / Lipase:78/64, Lactic Acid:1.5 mmol/L,
   Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.3
   mg/dL
   Fluid analysis / Other labs: UA - 100 protein
   Microbiology: [**1-5**] - bcx and ucx pending
   [**1-3**] bcx ntd
   respiratory viral culture negative
   [**1-3**] BAL:  GRAM STAIN (Final [**2164-1-3**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2164-1-4**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
      VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary):
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   A 60 year old gentleman with HIV on HAART and new hypoxia, radiographic
   evidence of pneumonia, and influenza A.  This morning he remains on AC
   after becoming tachypneic with attempts to wean to PSV.
   .
   # Fever:  Unknown source of fever, given patient is on Vanc/Ceftriaxone
   for bacterial superinfection/ARDS.  Has completed 10-day course of
   Tamiflu. Will r/o typical causes with bcx, ucx, sputum cx.  Continue
   current antibiotics until cultures return. Fever last night could be
   continued infection, or post-bronchoscopy reaction.
   - Continue Cefepime and Vanc for influenza with bacterial
   superinfection vs. ARDS.
   - F/u pan-culture; bcx ntd, f/u final BAL results
   - CXR tomorrow
   - Goal I/O even to minimize insensible losses from fever
   .
   # Respiratory failure:  No signs of PE on CT or DVT w/ LENI
s.  Remains
   difficult to wean off vent with tachypnea on PSV, despite prior
   improvement with a lower PEEP and on pressure support.  Most likely
   cause for his respiratory failure remains influenza with bacterial
   superinfection or ARDS.
   - wean vent; achieved goal of decreasing PEEP to 8 yesterday with POw
   94-95% (consider pressure support trial if possible).  Continue daily
   RSBI and SBTs.  Consider weaning sedation/paralysis
   - f/u final BAL results
 negative to date. Only culture (+) for yeast
   at this point.  Recent MRSA screen [**1-4**] negative.
   - Continue Day 4 of Cefepime, and continue Vanc (day >10 per POE?).
   Completed 10/10 days of Vanc and Ceftriaxone, switched to Cefepime
   [**1-2**].  CT chest shows PNA still present.
   - Oseltamivir 150mg PO BID for 10 day course
 completed on [**1-3**]
   .
   Less active or resolved problems:
   .
   # Agitation: has a significant component of anxiety contributing to
   respiratory alkalosis and agitation when weaned.  Did well with
   seroquel, with improvement in agitation.
   - continue with fent/versed for now.  Consider weaning once on PSV.
   - continue seroquel.
   .
   6) DM2: Blood sugars appear well controlled
   - Q6 ISS, no standing insulin
   .
   5) HIV: Patient's HIV currently well controlled although not on HAART
   initially due to illness, re-started HAART regimen.
   - Continue HAART, home regimen
   .
   # Abdominal pain: Patient without abdominal pain this morning and his
   CT abdomen showed no acute process.  His abdominal U/S showed no
   biliary duct obstruction and KUB had no evidence of obstruction.  He is
   now stooling. C.diff negative.
   - Given elevated lipases, is on Fentanyl/Versed instead of propofol;
   lipase trending towards normal most recently.
   - Continue BM regimen prn
   - Continue to monitor, seems to have stabilized
   .
   # Metabolic Alkalosis: would appear that has metabolic acidosis that is
   compensated, but since on vent could be that had resp acidosis w/
   metabolic compensation and had started to hyperventilate acutely.  An
   acute resp alkalosis on a compensated resp acidosis.  Currently
   resolved.
   .
   # Acute Renal Failure: Initially on admission, Cr has now normalized.
   - Foley catheter to monitor UOP
    .
   # Anemia: Hct is lower than baseline without recent evidence of
   bleeding.  His MCV is 80, concern for iron deficiency anemia.
   Hemolysis unlikely w/ normal haptoglobin.  Currently stable.
   - Iron studies more consistent with chronic disease but not classic
   - Trend Hct's
   .
   7) Hyperlipidemia:  Hold Atorvastatin while sorting out liver
   dysfunction.
   .
   FEN: No IVF, replete electrolytes, tube feeds- replete w/ fiber at 80
   Prophylaxis: Subcutaneous heparin; Omeprazole 20mg PO BID
   Access: Peripherals 20g x2. A-line.  He may need more central access as
   his peripherals are not very dependable
 place right central line
   (subclavian) today.
   Code:  Full (discussed with patient)
   Communication: Patient & sister [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11689**]
   Disposition: Pending clinical improvement/extubation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2163-12-29**] 04:00 PM
   Multi Lumen - [**2164-1-4**] 03:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-01-05 12:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo man with HAART, influenza PNA.   Continued fevers.
   24 Hour Events:
 MULTI LUMEN - START [**2164-1-4**] 03:11 PM
 BLOOD CULTURED - At [**2164-1-5**] 01:30 AM
 URINE CULTURE - At [**2164-1-5**] 01:30 AM
 FEVER - 101.8
F - [**2164-1-5**] 01:00 AM
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Cefipime - [**2164-1-5**] 06:17 AM
   Vancomycin - [**2164-1-5**] 10:12 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2164-1-5**] 01:15 AM
   Heparin Sodium (Prophylaxis) - [**2164-1-5**] 08:11 AM
   Other medications:
   insulin SS
   albuterol/atrovent
   prevacid
   chlorhex
   HAART
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-5**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.4
C (101.2
   HR: 96 (83 - 99) bpm
   BP: 117/67(83) {104/57(71) - 142/80(94)} mmHg
   RR: 24 (17 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 123 kg (admission): 122.3 kg
   Height: 68 Inch
             Total In:
                                                                  2,064 mL
                                                                    855 mL
   PO:
             TF:
                                                                  1,211 mL
                                                                    346 mL
   IVF:
                                                                    633 mL
                                                                    409 mL
   Blood products:
   Total out:
                                                                  1,445 mL
                                                                  1,200 mL
   Urine:
                                                                  1,445 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    619 mL
                                                                   -345 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 530 (530 - 530) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 96%
   ABG: 7.43/43/74/27/3
   Ve: 10.5 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   530 K/uL
   97 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.3 mEq/L
   23 mg/dL
   103 mEq/L
   139 mEq/L
   28.1 %
   9.4 K/uL
        [image002.jpg]
                            [**2164-1-2**]  02:24 AM
                            [**2164-1-2**]  05:58 AM
                            [**2164-1-2**]  10:06 AM
                            [**2164-1-2**]  09:24 PM
                             [**2164-1-3**]  12:03 AM
                             [**2164-1-3**]  03:20 AM
                             [**2164-1-3**]  03:36 AM
                             [**2164-1-4**]  04:42 AM
                             [**2164-1-5**]  04:11 AM
                             [**2164-1-5**]  08:17 AM
   WBC
   8.8
   9.6
   9.4
   Hct
   29.5
   28.9
   28.1
   Plt
   420
   477
   530
   Cr
   0.9
   0.9
   1.1
   TCO2
   34
   27
   31
   32
   31
   33
   29
   Glucose
   125
   115
   108
   103
   97
   Other labs: PT / PTT / INR:13.1/25.8/1.1, ALT / AST:30/32, Alk Phos / T
   Bili:76/0.4, Amylase / Lipase:78/64, Lactic Acid:1.5 mmol/L,
   Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.3
   mg/dL
   Microbiology: BAL: negative for microorganisms
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Respiratory failure:  influenza PNA.  slow improvement.  Continue to
   wean PS as tolerated.
   Fevers:  unclear cause.   all culltures have been thus far negative.
   Will stop all antibiotics as he has completed a full course for PNA (12
   days).
   Fluid overload:  has mild edema:  will aim for 1L negative.
   acute renal failure:  resolved.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2163-12-29**] 04:00 PM
   Multi Lumen - [**2164-1-4**] 03:11 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Critically ill

2164-01-06 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2164-1-5**] 05:00 PM
   - d/c all antibiotics for possible drug fever
   - talked to nurse about tape over subclavian rather than doing stitches
   again. A little loose for comfort.
   - PS weaned to [**9-10**] at 1600
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Cefipime - [**2164-1-5**] 06:17 AM
   Vancomycin - [**2164-1-5**] 10:12 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-1-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-6**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.2
C (99
   HR: 90 (82 - 103) bpm
   BP: 129/64(84) {87/53(69) - 152/86(107)} mmHg
   RR: 31 (19 - 35) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 121 kg (admission): 122.3 kg
   Height: 68 Inch
             Total In:
                                                                  1,781 mL
                                                                    432 mL
   PO:
             TF:
                                                                  1,211 mL
                                                                    392 mL
   IVF:
                                                                    419 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                    455 mL
   Urine:
                                                                  3,210 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,429 mL
                                                                    -23 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 431 (373 - 564) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 17 cmH2O
   SpO2: 92%
   ABG: 7.44/42/101/32/3
   Ve: 12.1 L/min
   PaO2 / FiO2: 202
   Physical Examination
   GEN: Withdraws to pain, NAD, sedated
   NECK: enlarged
   Cv: RRR, no m/r/g
   Pulm: CTAB
   ABD: obese, soft, nt
   EXTR: trace edema b/l
   Labs / Radiology
   554 K/uL
   8.8 g/dL
   100 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.2 mEq/L
   28 mg/dL
   103 mEq/L
   143 mEq/L
   28.1 %
   8.7 K/uL
        [image002.jpg]
                             [**2164-1-3**]  03:20 AM
                             [**2164-1-3**]  03:36 AM
                             [**2164-1-4**]  04:42 AM
                             [**2164-1-5**]  04:11 AM
                             [**2164-1-5**]  08:17 AM
                             [**2164-1-5**]  03:44 PM
                             [**2164-1-5**]  03:58 PM
                             [**2164-1-5**]  06:46 PM
                             [**2164-1-6**]  03:15 AM
                             [**2164-1-6**]  03:29 AM
   WBC
   8.8
   9.6
   9.4
   8.7
   Hct
   29.5
   28.9
   28.1
   28.1
   Plt
   420
   477
   530
   554
   Cr
   0.9
   0.9
   1.1
   0.9
   1.1
   TCO2
   33
   29
   35
   32
   29
   Glucose
   115
   108
   103
   97
   104
   100
   Other labs: PT / PTT / INR:13.1/25.8/1.1, ALT / AST:30/32, Alk Phos / T
   Bili:76/0.4, Amylase / Lipase:78/64, Lactic Acid:0.9 mmol/L,
   Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:9.0 mg/dL, Mg++:2.5 mg/dL, PO4:4.4
   mg/dL
   Imaging: [**1-6**] CXR: slightly worsened left pleural effusion, persistent
   right pleural effusion and hilar fullness
   Microbiology: [**1-3**], [**1-5**] BCx pending
   [**1-5**] ucx pending
   [**2164-1-3**] 3:11 pm BRONCHOALVEOLAR LAVAGE
      GRAM STAIN (Final [**2164-1-3**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2164-1-5**]):    NO GROWTH, <1000 CFU/ml.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2164-1-4**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
      VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary):
         No Virus isolated so far.
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   A 60 year old gentleman with HIV on HAART and new hypoxia, radiographic
   evidence of pneumonia, and influenza A.  This morning he remains on AC
   after becoming tachypneic with attempts to wean to PSV.
   .
   # Fever:  Unknown source of fever, given patient is on Vanc/Ceftriaxone
   for bacterial superinfection/ARDS.  Has completed 10-day course of
   Tamiflu. Will r/o typical causes with bcx, ucx, sputum cx.  Continue
   current antibiotics until cultures return. Fever last night could be
   continued infection, or post-bronchoscopy reaction.  Fever curve
   improving, differential includes drug fever, fungal infection less
   likely but possible given HIV status.
   - Discontinue Cefepime and Vanc (initially on for influenza with
   bacterial superinfection vs. ARDS) for possible drug fever given
   negative cultures.
   - F/u pan-culture; bcx ntd, f/u final BAL results
   .
   # Respiratory failure:  No signs of PE on CT or DVT w/ LENI
s.  Remains
   difficult to wean off vent with tachypnea on PSV, despite prior
   improvement with a lower PEEP and on pressure support.  Most likely
   cause for his respiratory failure remains influenza with bacterial
   superinfection or ARDS.  Oseltamivir 150mg PO BID for 10 day course
   completed on [**1-3**].
   - wean vent; achieved goal of decreasing PEEP to 8 yesterday with POw
   94-95% (consider pressure support trial if possible).  Completed [**11-12**]
   days of Vanc and Ceftriaxone, switched to Cefepime [**1-2**].  CT chest
   shows PNA still present.
    - Lasix 40mg IV for goal I/O -1L today to optimize respiratory status
   prior to extubtation
   - f/u final BAL results
 negative to date. Only culture (+) for yeast
   at this point.  Recent MRSA screen [**1-4**] negative.
   .
   Less active or resolved problems:
   .
   # Agitation: has a significant component of anxiety contributing to
   respiratory alkalosis and agitation when weaned.  Did well with
   seroquel, with improvement in agitation.
   - continue with fent/versed for now.  Consider weaning once on PSV.
   - continue seroquel.
   .
   6) DM2: Blood sugars appear well controlled
   - Q6 ISS, no standing insulin
   .
   5) HIV: Patient's HIV currently well controlled although not on HAART
   initially due to illness, re-started HAART regimen.
   - Continue HAART, home regimen
   .
   # Abdominal pain: Patient without abdominal pain this morning and his
   CT abdomen showed no acute process.  His abdominal U/S showed no
   biliary duct obstruction and KUB had no evidence of obstruction.  He is
   now stooling. C.diff negative.
   - Given elevated lipases, is on Fentanyl/Versed instead of propofol;
   lipase trending towards normal most recently.
   - Continue BM regimen prn
   - Continue to monitor, seems to have stabilized
   .
   # Metabolic Alkalosis: would appear that has metabolic acidosis that is
   compensated, but since on vent could be that had resp acidosis w/
   metabolic compensation and had started to hyperventilate acutely.  An
   acute resp alkalosis on a compensated resp acidosis.  Currently
   resolved.
   .
   # Acute Renal Failure: Initially on admission, Cr has now normalized.
   - Foley catheter to monitor UOP
    .
   # Anemia: Hct is lower than baseline without recent evidence of
   bleeding.  His MCV is 80, concern for iron deficiency anemia.
   Hemolysis unlikely w/ normal haptoglobin.  Currently stable.
   - Iron studies more consistent with chronic disease but not classic
   - Trend Hct's
   .
   7) Hyperlipidemia:  Hold Atorvastatin while sorting out liver
   dysfunction.
   .
   FEN: No IVF, replete electrolytes, tube feeds- replete w/ fiber at 80
   Prophylaxis: Subcutaneous heparin; Omeprazole 20mg PO BID
   Access: Peripherals 20g x2. A-line.  He may need more central access as
   his peripherals are not very dependable
 place right central line
   (subclavian) today.
   Code:  Full (discussed with patient)
   Communication: Patient & sister [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11689**]
   Disposition: Pending clinical improvement/extubation
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-1-6**] 02:37 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2163-12-29**] 04:00 PM
   Multi Lumen - [**2164-1-4**] 03:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-01-06 10:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo man with HIV.  Remained on PSV all night.
   24 Hour Events:
 FEVER - 101.4
F - [**2164-1-5**] 05:00 PM
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Cefipime - [**2164-1-5**] 06:17 AM
   Vancomycin - [**2164-1-5**] 10:12 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-1-6**] 08:00 AM
   Other medications:
   prevacid
   chlorhex
   HAART
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-6**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.7
C (99.9
   HR: 95 (82 - 103) bpm
   BP: 122/72(90) {87/53(69) - 152/86(107)} mmHg
   RR: 20 (19 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 121 kg (admission): 122.3 kg
   Height: 68 Inch
             Total In:
                                                                  1,781 mL
                                                                    656 mL
   PO:
             TF:
                                                                  1,211 mL
                                                                    530 mL
   IVF:
                                                                    419 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                    650 mL
   Urine:
                                                                  3,210 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,429 mL
                                                                      6 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (373 - 564) mL
   PS : 8 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.44/42/101/32/3
   Ve: 11.6 L/min
   PaO2 / FiO2: 202
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   554 K/uL
   100 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.2 mEq/L
   28 mg/dL
   103 mEq/L
   143 mEq/L
   28.1 %
   8.7 K/uL
        [image002.jpg]
                             [**2164-1-3**]  03:20 AM
                             [**2164-1-3**]  03:36 AM
                             [**2164-1-4**]  04:42 AM
                             [**2164-1-5**]  04:11 AM
                             [**2164-1-5**]  08:17 AM
                             [**2164-1-5**]  03:44 PM
                             [**2164-1-5**]  03:58 PM
                             [**2164-1-5**]  06:46 PM
                             [**2164-1-6**]  03:15 AM
                             [**2164-1-6**]  03:29 AM
   WBC
   8.8
   9.6
   9.4
   8.7
   Hct
   29.5
   28.9
   28.1
   28.1
   Plt
   420
   477
   530
   554
   Cr
   0.9
   0.9
   1.1
   0.9
   1.1
   TCO2
   33
   29
   35
   32
   29
   Glucose
   115
   108
   103
   97
   104
   100
   Other labs: PT / PTT / INR:13.1/25.8/1.1, ALT / AST:30/32, Alk Phos / T
   Bili:76/0.4, Amylase / Lipase:78/64, Lactic Acid:0.9 mmol/L,
   Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:9.0 mg/dL, Mg++:2.5 mg/dL, PO4:4.4
   mg/dL
   Imaging: CXR:  unchanged
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Influenza PNA/respiratory failure:  now off all antibiotics.
   Wean peep and then PSV today.
   Sedation:  wean sedation down.
   fluid overload.  keep net even today.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-1-6**] 02:37 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2163-12-29**] 04:00 PM
   Multi Lumen - [**2164-1-4**] 03:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2164-01-07 08:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.8
F - [**2164-1-6**] 08:00 PM
   - Attempted to wean vent with bolus sedation, but became agitated and
   BP, HR increased.  Yawning and diaphoretic and agitated, opiate
   withdrawal.  Placed on Fentanyl/Versed drip and back on CMV with PEEP
   8.  Also wrote for Zyprexa
   - 500cc NS fluids
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Cefipime - [**2164-1-5**] 06:17 AM
   Vancomycin - [**2164-1-5**] 10:12 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Fentanyl - [**2164-1-6**] 07:30 PM
   Midazolam (Versed) - [**2164-1-6**] 08:51 PM
   Heparin Sodium (Prophylaxis) - [**2164-1-7**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-7**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.1
C (100.5
   HR: 106 (84 - 112) bpm
   BP: 144/72(93) {102/51(70) - 162/84(100)} mmHg
   RR: 24 (16 - 39) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 121 kg (admission): 122.3 kg
   Height: 68 Inch
             Total In:
                                                                  1,342 mL
                                                                    440 mL
   PO:
             TF:
                                                                  1,203 mL
                                                                    400 mL
   IVF:
                                                                     69 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                    640 mL
   Urine:
                                                                  1,720 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -378 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 464 (428 - 464) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 100
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 92%
   ABG: ///29/
   Ve: 14.1 L/min
   Physical Examination
   GEN: Withdraws to pain, NAD, sedated
   NECK: enlarged
   Cv: RRR, no m/r/g
   Pulm: CTAB
   ABD: obese, soft, nt
   EXTR: no edema b/l
   Labs / Radiology
   629 K/uL
   9.1 g/dL
   98 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.9 mEq/L
   27 mg/dL
   105 mEq/L
   142 mEq/L
   27.4 %
   8.0 K/uL
        [image002.jpg]
                             [**2164-1-3**]  03:36 AM
                             [**2164-1-4**]  04:42 AM
                             [**2164-1-5**]  04:11 AM
                             [**2164-1-5**]  08:17 AM
                             [**2164-1-5**]  03:44 PM
                             [**2164-1-5**]  03:58 PM
                             [**2164-1-5**]  06:46 PM
                             [**2164-1-6**]  03:15 AM
                             [**2164-1-6**]  03:29 AM
                             [**2164-1-7**]  03:19 AM
   WBC
   9.6
   9.4
   8.7
   8.0
   Hct
   28.9
   28.1
   28.1
   27.4
   Plt
   477
   530
   554
   629
   Cr
   0.9
   1.1
   0.9
   1.1
   0.9
   TCO2
   33
   29
   35
   32
   29
   Glucose
   108
   103
   97
   104
   100
   98
   Other labs: PT / PTT / INR:13.1/25.8/1.1, ALT / AST:27/37, Alk Phos / T
   Bili:100/0.3, Amylase / Lipase:78/64, Lactic Acid:0.9 mmol/L,
   Albumin:3.1 g/dL, LDH:186 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.5
   mg/dL
   Imaging: .
   Microbiology: [**1-3**], [**1-5**] bcx ngtd
   [**1-5**] ucx ntd
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   A 60 year old gentleman with HIV on HAART and new hypoxia, radiographic
   evidence of pneumonia, and influenza A.  This morning he remains on AC
   after becoming tachypneic with attempts to wean to PSV.
   .
   # Fever:  Unknown source of fever, given patient is on Vanc/Ceftriaxone
   for bacterial superinfection/ARDS.  Has completed 10-day course of
   Tamiflu. Will r/o typical causes with bcx, ucx, sputum cx.  Continue
   current antibiotics until cultures return. Fever last night could be
   continued infection, or post-bronchoscopy reaction.  Fever curve
   improving, differential includes drug fever, fungal infection less
   likely but possible given HIV status.
   - Discontinue Cefepime and Vanc (initially on for influenza with
   bacterial superinfection vs. ARDS) for possible drug fever given
   negative cultures.
   - F/u pan-culture; bcx ntd, f/u final BAL results
   .
   # Respiratory failure:  No signs of PE on CT or DVT w/ LENI
s.  Remains
   difficult to wean off vent with tachypnea on PSV, despite prior
   improvement with a lower PEEP and on pressure support.  Most likely
   cause for his respiratory failure remains influenza with bacterial
   superinfection or ARDS.  Oseltamivir 150mg PO BID for 10 day course
   completed on [**1-3**].
   - Wean vent; decrease PEEP from 8 to 5 today with PO2 94-95% (consider
   pressure support trial if possible).  Perform RSBI.  If tolerated,
   decrease pressure support.
   - Decrease sedation
   - Completed 10/10 days of Vanc and Ceftriaxone, switched to Cefepime
   [**1-2**].  CT chest shows PNA still present.
   - No diuresis today, will allow pt to autodiurese.  Lasix 40mg IV for
   goal I/O -1L today to optimize respiratory status prior to
   extubtation.
   - f/u final BAL results
 negative to date. Only culture (+) for yeast
   at this point.  Recent MRSA screen [**1-4**] negative.
   .
   Less active or resolved problems:
   .
   # Agitation: has a significant component of anxiety contributing to
   respiratory alkalosis and agitation when weaned.  Did well with
   seroquel, with improvement in agitation.
   - Wean  fent/versed as tolerated.
   - continue seroquel.
   .
   6) DM2: Blood sugars appear well controlled
   - Q6 ISS, no standing insulin
   .
   5) HIV: Patient's HIV currently well controlled although not on HAART
   initially due to illness, re-started HAART regimen.
   - Continue HAART, home regimen
   .
   # Abdominal pain: Patient without abdominal pain this morning and his
   CT abdomen showed no acute process.  His abdominal U/S showed no
   biliary duct obstruction and KUB had no evidence of obstruction.  He is
   now stooling. C.diff negative.
   - Given elevated lipases, is on Fentanyl/Versed instead of propofol;
   lipase trending towards normal most recently.
   - Continue BM regimen prn
   - Continue to monitor, seems to have stabilized
   .
   # Metabolic Alkalosis: would appear that has metabolic acidosis that is
   compensated, but since on vent could be that had resp acidosis w/
   metabolic compensation and had started to hyperventilate acutely.  An
   acute resp alkalosis on a compensated resp acidosis.  Currently
   resolved.
   .
   # Acute Renal Failure: Initially on admission, Cr has now normalized.
   - Foley catheter to monitor UOP
    .
   # Anemia: Hct is lower than baseline without recent evidence of
   bleeding.  His MCV is 80, concern for iron deficiency anemia.
   Hemolysis unlikely w/ normal haptoglobin.  Currently stable.
   - Iron studies more consistent with chronic disease but not classic
   .
   7) Hyperlipidemia:  Hold Atorvastatin while sorting out liver
   dysfunction.
   .
   FEN: No IVF, replete electrolytes, tube feeds- replete w/ fiber at 80
   Prophylaxis: Subcutaneous heparin; Omeprazole 20mg PO BID
   Access: Peripherals 20g x2. A-line.  Right central line (subclavian).
   Code:  Full (discussed with patient)
   Communication: Patient & sister [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11689**]
   Disposition: Pending clinical improvement/extubation
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-1-6**] 10:21 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2163-12-29**] 04:00 PM
   Multi Lumen - [**2164-1-4**] 03:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-01-07 12:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yr old HIV on HAART, prob influenza/pna, difficult vent wean
   Was tx empirically with vanc/ceftriax/tamiflu
   24 Hour Events:
 FEVER - 101.8
F - [**2164-1-6**] 08:00 PM
   PS trial yesterday
   Put back on versed/fentanyl, and A/C
   RSBI 100
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Cefipime - [**2164-1-5**] 06:17 AM
   Vancomycin - [**2164-1-5**] 10:12 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Fentanyl - [**2164-1-6**] 07:30 PM
   Midazolam (Versed) - [**2164-1-6**] 08:51 PM
   Heparin Sodium (Prophylaxis) - [**2164-1-7**] 08:17 AM
   Lansoprazole (Prevacid) - [**2164-1-7**] 08:17 AM
   Other medications: reviewed list
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-7**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.7
C (99.9
   HR: 97 (84 - 112) bpm
   BP: 96/89(93) {94/51(70) - 162/99(102)} mmHg
   RR: 23 (16 - 39) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 121 kg (admission): 122.3 kg
   Height: 68 Inch
             Total In:
                                                                  1,343 mL
                                                                    720 mL
   PO:
             TF:
                                                                  1,203 mL
                                                                    600 mL
   IVF:
                                                                     69 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                    740 mL
   Urine:
                                                                  1,720 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -377 mL
                                                                    -20 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 464 (428 - 464) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 100
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 94%
   ABG: ///29/
   Ve: 14.1 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Lymphatic: Cervical WNL, large neck
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Sedated, grimaces to pain
   Labs / Radiology
   9.1 g/dL
   629 K/uL
   98 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.9 mEq/L
   27 mg/dL
   105 mEq/L
   142 mEq/L
   27.4 %
   8.0 K/uL
        [image002.jpg]
                             [**2164-1-3**]  03:36 AM
                             [**2164-1-4**]  04:42 AM
                             [**2164-1-5**]  04:11 AM
                             [**2164-1-5**]  08:17 AM
                             [**2164-1-5**]  03:44 PM
                             [**2164-1-5**]  03:58 PM
                             [**2164-1-5**]  06:46 PM
                             [**2164-1-6**]  03:15 AM
                             [**2164-1-6**]  03:29 AM
                             [**2164-1-7**]  03:19 AM
   WBC
   9.6
   9.4
   8.7
   8.0
   Hct
   28.9
   28.1
   28.1
   27.4
   Plt
   477
   530
   554
   629
   Cr
   0.9
   1.1
   0.9
   1.1
   0.9
   TCO2
   33
   29
   35
   32
   29
   Glucose
   108
   103
   97
   104
   100
   98
   Other labs: PT / PTT / INR:13.1/25.8/1.1, ALT / AST:27/37, Alk Phos / T
   Bili:100/0.3, Amylase / Lipase:78/64, Lactic Acid:0.9 mmol/L,
   Albumin:3.1 g/dL, LDH:186 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.5
   mg/dL
   Microbiology: no new micro
   influenza a positive documented
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Influenza PNA/acute respiratory failure:  now off all antibiotics.
   Continues to have fevers of unclear origin. Will repeat panculture,
   repeat CT torso and check sinuses due to concern for ongoing spiking
   fevers. Wean peep as tolerated. and then PSV today.
   Sedation:  wean sedation down as tolerated. Got agitated off sedation
   yesterday
   Fluid overload. Keep net even today.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-1-7**] 08:20 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2163-12-29**] 04:00 PM
   Multi Lumen - [**2164-1-4**] 03:11 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2164-01-08 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ARDS in setting of H1N1 and HIV
   24 Hour Events:
   Pan cultured for fever spike
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2164-1-5**] 10:12 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2164-1-7**] 08:17 AM
   Heparin Sodium (Prophylaxis) - [**2164-1-8**] 01:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-8**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.5
C (101.3
   HR: 96 (91 - 108) bpm
   BP: 120/56(180) {93/56(85) - 159/110(180)} mmHg
   RR: 23 (17 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 121 kg (admission): 122.3 kg
   Height: 68 Inch
             Total In:
                                                                  1,383 mL
                                                                    406 mL
   PO:
             TF:
                                                                  1,203 mL
                                                                    370 mL
   IVF:
                                                                    120 mL
                                                                     37 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    770 mL
   Urine:
                                                                  1,610 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -227 mL
                                                                   -364 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.46/41/81.[**Numeric Identifier 218**]/30/4
   Ve: 10.3 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   582 K/uL
   8.9 g/dL
   101 mg/dL
   1.0 mg/dL
   30 mEq/L
   4.6 mEq/L
   26 mg/dL
   105 mEq/L
   143 mEq/L
   27.9 %
   7.3 K/uL
        [image002.jpg]
                             [**2164-1-5**]  04:11 AM
                             [**2164-1-5**]  08:17 AM
                             [**2164-1-5**]  03:44 PM
                             [**2164-1-5**]  03:58 PM
                             [**2164-1-5**]  06:46 PM
                             [**2164-1-6**]  03:15 AM
                             [**2164-1-6**]  03:29 AM
                             [**2164-1-7**]  03:19 AM
                             [**2164-1-7**]  02:08 PM
                             [**2164-1-8**]  02:57 AM
   WBC
   9.4
   8.7
   8.0
   7.3
   Hct
   28.1
   28.1
   27.4
   27.9
   Plt
   [**Telephone/Fax (3) 11943**]82
   Cr
   1.1
   0.9
   1.1
   0.9
   1.0
   TCO2
   29
   35
   32
   29
   30
   Glucose
   103
   97
   104
   100
   98
   101
   Other labs: PT / PTT / INR:13.1/25.8/1.1, ALT / AST:27/37, Alk Phos / T
   Bili:100/0.3, Amylase / Lipase:78/64, Lactic Acid:0.9 mmol/L,
   Albumin:3.1 g/dL, LDH:186 IU/L, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:4.4
   mg/dL
   Imaging: Wet read - CT torso with contrast (and sinuses):
   1. Bilateral dependent basilar atelectasis, slightly worsened when
   compared to the prior study. Given recurrent fevers, superinfection
   cannot be excluded.
   2. No acute intra-abdominal or pelvic process identified. Specifically,
   no abscess is noted within the abdomen or pelvis.
   -pan-cultured for spike
   Microbiology: [**2164-1-7**] 1:12 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2164-1-7**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   BUDDING YEAST.
   All recent cultures are NTD
   Assessment and Plan
   A 60 year old gentleman with HIV on HAART and new hypoxia, radiographic
   evidence of pneumonia, and influenza A.  This morning he remains on AC
   after becoming tachypneic with attempts to wean to PSV.
   .
   # Fever:  Unknown source of fever, given patient is on Vanc/Ceftriaxone
   for bacterial superinfection/ARDS.  Has completed 10-day course of
   Tamiflu for testing positive for Influenza A.  Bcx, ucx, sputum cx
   negative.  Completed 10/10 days of Vanc and Ceftriaxone, switched to
   Cefepime [**1-2**].  CT chest shows PNA still present.  BAL [**1-3**] negative.
   Only positive cultures grew out yeast (sputum).  Fever curve unchaged
   following discontinuation of antibiotics for possible drug fever,
   abscess vs. fungal infection less likely but possible given HIV status.
   - CT torso and CT head to r/o abscess and sinus infection (in setting
   of positive flu) given fevers without a source
   - Discontinue Cefepime and Vanc (initially on for influenza with
   bacterial superinfection vs. ARDS) for possible drug fever given
   negative cultures.
   - F/u pan-culture; bcx ntd, f/u final BAL results
   .
   # Respiratory failure:  No signs of PE on CT or DVT w/ LENI
s.  Remains
   difficult to wean off vent with tachypnea on PSV, despite prior
   improvement with a lower PEEP and on pressure support.  Most likely
   cause for his respiratory failure remains influenza with bacterial
   superinfection or ARDS.  Oseltamivir 150mg PO BID for 10 day course
   completed on [**1-3**].
   - Wean vent; decrease PEEP from 8 to 5 today with PO2 94-95% (consider
   pressure support trial if possible).  Perform RSBI.  If tolerated,
   decrease pressure support.
   - Hold current level of sedation and attempt to switch vent to PSV.
   - Repeat ABG today
   - No diuresis today, will allow pt to autodiurese.
   .
   Less active or resolved problems:
   .
   # Agitation: has a significant component of anxiety contributing to
   respiratory alkalosis and agitation when weaned.  Did well with
   seroquel, with improvement in agitation.
   - Wean  fent/versed as tolerated.
   - continue seroquel.
   .
   6) DM2: Blood sugars appear well controlled
   - Q6 ISS, no standing insulin
   .
   5) HIV: Patient's HIV currently well controlled although not on HAART
   initially due to illness, re-started HAART regimen.
   - Continue HAART, home regimen
   .
   # Abdominal pain: Patient without abdominal pain this morning and his
   CT abdomen showed no acute process.  His abdominal U/S showed no
   biliary duct obstruction and KUB had no evidence of obstruction.  He is
   now stooling. C.diff negative.
   - Given elevated lipases, is on Fentanyl/Versed instead of propofol;
   lipase trending towards normal most recently.
   - Continue BM regimen prn
   - Continue to monitor, seems to have stabilized
   .
   # Metabolic Alkalosis: would appear that has metabolic acidosis that is
   compensated, but since on vent could be that had resp acidosis w/
   metabolic compensation and had started to hyperventilate acutely.  An
   acute resp alkalosis on a compensated resp acidosis.  Currently
   resolved.
   .
   # Acute Renal Failure: Initially on admission, Cr has now normalized.
   - Foley catheter to monitor UOP
    .
   # Anemia: Hct is lower than baseline without recent evidence of
   bleeding.  His MCV is 80, concern for iron deficiency anemia.
   Hemolysis unlikely w/ normal haptoglobin.  Currently stable.
   - Iron studies more consistent with chronic disease but not classic
   .
   7) Hyperlipidemia:  Hold Atorvastatin while sorting out liver
   dysfunction.
   .
   FEN: No IVF, replete electrolytes, tube feeds- replete w/ fiber at 80
   Prophylaxis: Subcutaneous heparin; Omeprazole 20mg PO BID
   Access: Peripherals 20g x2. A-line.  Right central line (subclavian).
   Code:  Full (discussed with patient)
   Communication: Patient & sister [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11689**]
   Disposition: Pending clinical improvement/extubation

2164-01-08 09:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   HIV on HAART with H1N1 influenza, ARDS, intubated
   24 Hour Events:
 PAN CULTURE - At [**2164-1-7**] 01:00 PM
 FEVER - 102.1
F - [**2164-1-7**] 12:00 PM
   As above, spiked, pancultured
   Patient unable to provide history: Sedated
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2164-1-5**] 10:12 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-1-8**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-8**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.2
C (100.8
   HR: 92 (91 - 108) bpm
   BP: 112/94(100) {93/56(85) - 159/110(180)} mmHg
   RR: 19 (17 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 121 kg (admission): 122.3 kg
   Height: 68 Inch
             Total In:
                                                                  1,383 mL
                                                                    658 mL
   PO:
             TF:
                                                                  1,203 mL
                                                                    471 mL
   IVF:
                                                                    120 mL
                                                                     47 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    830 mL
   Urine:
                                                                  1,610 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -227 mL
                                                                   -172 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: 7.46/41/81.[**Numeric Identifier 218**]/30/4
   Ve: 9.1 L/min
   PaO2 / FiO2: 162
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Wheezes : ), coarse sounds
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   582 K/uL
   101 mg/dL
   1.0 mg/dL
   30 mEq/L
   4.6 mEq/L
   26 mg/dL
   105 mEq/L
   143 mEq/L
   27.9 %
   7.3 K/uL
        [image002.jpg]
                             [**2164-1-5**]  04:11 AM
                             [**2164-1-5**]  08:17 AM
                             [**2164-1-5**]  03:44 PM
                             [**2164-1-5**]  03:58 PM
                             [**2164-1-5**]  06:46 PM
                             [**2164-1-6**]  03:15 AM
                             [**2164-1-6**]  03:29 AM
                             [**2164-1-7**]  03:19 AM
                             [**2164-1-7**]  02:08 PM
                             [**2164-1-8**]  02:57 AM
   WBC
   9.4
   8.7
   8.0
   7.3
   Hct
   28.1
   28.1
   27.4
   27.9
   Plt
   [**Telephone/Fax (3) 11943**]82
   Cr
   1.1
   0.9
   1.1
   0.9
   1.0
   TCO2
   29
   35
   32
   29
   30
   Glucose
   103
   97
   104
   100
   98
   101
   Other labs: PT / PTT / INR:13.1/25.8/1.1, ALT / AST:27/37, Alk Phos / T
   Bili:100/0.3, Amylase / Lipase:78/64, Lactic Acid:0.9 mmol/L,
   Albumin:3.1 g/dL, LDH:186 IU/L, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:4.4
   mg/dL
   Microbiology: Sputum - budding yeast
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Influenza PNA/acute respiratory failure:  now off all antibiotic x
   3days  (prev on vanc/ceftriax). Continues to have fevers of unclear
   origin. Panculture pending - will get miniBAL. CT torso reviewed. LLL
   pneumonia more impressive compared to [**12-30**] CT torso. Keep negative.
   Wean peep as tolerated. PSV today.
   Keep  sedation down as tolerated. Got agitated off sedation 2 days ago,
   was alert and mildly agitated during CT yesterday.
   Try to keep even to negative.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-1-8**] 04:12 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2163-12-29**] 04:00 PM
   Multi Lumen - [**2164-1-4**] 03:11 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2164-01-09 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ARDS in setting of H1N1 and HIV
   24 Hour Events:
 BAL FLUID CULTURE - At [**2164-1-8**] 10:30 AM
 FEVER - 102.4
F - [**2164-1-9**] 05:00 AM
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2164-1-8**] 08:41 PM
   Cefipime - [**2164-1-8**] 09:45 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-1-9**] 12:17 AM
   Furosemide (Lasix) - [**2164-1-9**] 04:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-9**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 39.1
C (102.4
   HR: 87 (87 - 106) bpm
   BP: 120/75(89) {112/68(85) - 159/96(113)} mmHg
   RR: 17 (17 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 121 kg (admission): 122.3 kg
   Height: 68 Inch
             Total In:
                                                                  2,014 mL
                                                                    413 mL
   PO:
             TF:
                                                                  1,204 mL
                                                                    375 mL
   IVF:
                                                                    670 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    980 mL
   Urine:
                                                                  2,200 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -186 mL
                                                                   -567 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 59
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: ///30/
   Ve: 10.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   513 K/uL
   9.1 g/dL
   107 mg/dL
   1.0 mg/dL
   30 mEq/L
   4.7 mEq/L
   28 mg/dL
   105 mEq/L
   144 mEq/L
   29.0 %
   7.9 K/uL
         [image002.jpg]
                             [**2164-1-5**]  03:44 PM
                             [**2164-1-5**]  03:58 PM
                             [**2164-1-5**]  06:46 PM
                             [**2164-1-6**]  03:15 AM
                             [**2164-1-6**]  03:29 AM
                             [**2164-1-7**]  03:19 AM
                             [**2164-1-7**]  02:08 PM
                             [**2164-1-8**]  02:57 AM
                             [**2164-1-8**]  05:08 PM
                             [**2164-1-9**]  04:16 AM
   WBC
   8.7
   8.0
   7.3
   6.9
   7.9
   Hct
   28.1
   27.4
   27.9
   30.1
   29.0
   Plt
   554
   629
   582
   518
   513
   Cr
   0.9
   1.1
   0.9
   1.0
   1.1
   1.0
   TCO2
   35
   32
   29
   30
   Glucose
   104
   100
   98
   101
   112
   107
   Other labs: PT / PTT / INR:13.1/25.8/1.1, ALT / AST:27/37, Alk Phos / T
   Bili:100/0.3, Amylase / Lipase:78/64, Differential-Neuts:68.7 %,
   Lymph:21.3 %, Mono:7.0 %, Eos:2.6 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.1 g/dL, LDH:186 IU/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.0
   mg/dL
   Imaging: CXR [**2164-1-8**]:  In comparison with the study of [**1-6**], the tip of
   the endotracheal
   tube is now approximately 3.7 cm above the carina. Nasogastric tube and
   central catheter remain in place. Extensive retrocardiac opacification
   persists, consistent with atelectasis and effusion. Only minimal
   atelectatic
   changes are seen at the right base.
     CT abd/pelvis [**2164-1-7**]
   1. Bilateral dependent basilar atelectasis, slightly worsened when
   compared
   to the prior study. Given recurrent fevers, superinfection cannot be
   excluded.
   2. No acute intra-abdominal or pelvic process identified. Specifically,
   no
   abscess is noted within the abdomen or pelvis.
   CT sinus [**2164-1-7**]: 1. Mucosal thickening and partial opacification of
   the bilateral ethmoid and
   sphenoid sinuses with no air-fluid levels, or abscess formation
   identified.
   2. Marked demineralization of the cribriform plates of ethmod with
   opacification; intracranial communication cannot be excluded; consider
   MR
   paranasal sinuses, if needed
   3. Focus of discontinuity in the left maxilla with posisble
   communication with
   oral cavity- correlate with direct examination .
   Microbiology: [**2164-1-8**] 10:44 am Rapid Respiratory Viral Screen &
   Culture: Quantity not sufficient
   [**2164-1-8**] Mini-bal: GRAM Stain: 1+    (<1 per 1000X FIELD):
   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
   Cxrs pending
   [**2164-1-7**] sputum cxr - yeast, sparse growth
   B cxrs from [**1-3**], [**1-5**], [**1-7**] pending
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Assessment and Plan
   A 60 year old gentleman with HIV on HAART and new hypoxia, radiographic
   evidence of pneumonia, and influenza A.  This morning he remains on AC
   after becoming tachypneic with attempts to wean to PSV.
   .
   # Fever:  Unknown source of fever, given patient is on Vanc/Ceftriaxone
   for bacterial superinfection/ARDS.  Has completed 10-day course of
   Tamiflu for testing positive for Influenza A.  Bcx, ucx, sputum cx
   negative.  Completed 10/10 days of Vanc and Ceftriaxone, switched to
   Cefepime [**1-2**].  CT chest shows PNA still present.  BAL [**1-3**] negative.
   Only positive cultures grew out yeast (sputum).  Fever curve unchanged
   following discontinuation of antibiotics for possible drug fever,
   abscess vs. fungal infection less likely but possible given HIV
   status.  Spiked again 2 days ago and CT from then showed persistent
   pneumonia so restarted antibiotics yesterday.
   - F/U CT torso and CT head to r/o abscess and sinus infection; so far
   only show persistent PNA
   - Restart cefipime and vancomycin.  Looks to be a persistent
   pneumonia.  New day 1 is [**1-8**].
   - Mini BAL and pan-culture before antibiotics given.
   - fungal tests: B-glucan and galactomannin
   .
   # Respiratory failure:  No signs of PE on CT or DVT w/ LENI
s.  Remains
   difficult to wean off vent with tachypnea on PSV, despite prior
   improvement with a lower PEEP and on pressure support.  Most likely
   cause for his respiratory failure remains influenza with bacterial
   superinfection or ARDS.  Oseltamivir 150mg PO BID for 10 day course
   completed on [**1-3**].
   - Wean vent; patient at PEEP of 8 and likely not to go lower because of
   chest wall size, will attempt to convert to PS today
   - 20mg IV lasix today for gentle diuresis
   - needs to have a trach placed this week if can
t be extubated,
   .
   Less active or resolved problems:
   .
   # Agitation: has a significant component of anxiety contributing to
   respiratory alkalosis and agitation when weaned.  Did well with
   seroquel, with improvement in agitation.
   - Wean  fent/versed as tolerated.
   - continue seroquel.
   .
   6) DM2: Blood sugars appear well controlled
   - Q6 ISS, no standing insulin
   .
   5) HIV: Patient's HIV currently well controlled although not on HAART
   initially due to illness, re-started HAART regimen.
   - Continue HAART, home regimen
   .
   # Abdominal pain: Patient without abdominal pain this morning and his
   CT abdomen showed no acute process.  His abdominal U/S showed no
   biliary duct obstruction and KUB had no evidence of obstruction.  He is
   now stooling. C.diff negative.
   - Given elevated lipases, is on Fentanyl/Versed instead of propofol;
   lipase trending towards normal most recently.
   - Continue BM regimen prn
   - Continue to monitor, seems to have stabilized
   .
   # Metabolic Alkalosis: would appear that has metabolic acidosis that is
   compensated, but since on vent could be that had resp acidosis w/
   metabolic compensation and had started to hyperventilate acutely.  An
   acute resp alkalosis on a compensated resp acidosis.  Currently
   resolved.
   .
   # Acute Renal Failure: Initially on admission, Cr has now normalized.
   - Foley catheter to monitor UOP
    .
   # Anemia: Hct is lower than baseline without recent evidence of
   bleeding.  His MCV is 80, concern for iron deficiency anemia.
   Hemolysis unlikely w/ normal haptoglobin.  Currently stable.
   - Iron studies more consistent with chronic disease but not classic
   .
   7) Hyperlipidemia:  Hold Atorvastatin while sorting out liver
   dysfunction.
   .
   FEN: No IVF, replete electrolytes, tube feeds- replete w/ fiber at 80
   Prophylaxis: Subcutaneous heparin; Omeprazole 20mg PO BID
   Access: Peripherals 20g x2. A-line.  Right central line (subclavian).
   Code:  Full (discussed with patient)
   Communication: Patient & sister [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11689**]
   Disposition: Pending clinical improvement/extubation

2164-01-09 09:33:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Influenza A
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   mini-BAL yesterday - cx pending
   24 Hour Events:
 BAL FLUID CULTURE - At [**2164-1-8**] 10:30 AM
 FEVER - 102.4
F - [**2164-1-9**] 05:00 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2164-1-8**] 08:41 PM
   Cefipime - [**2164-1-8**] 09:45 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-1-9**] 12:17 AM
   Furosemide (Lasix) - [**2164-1-9**] 04:42 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-1-9**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 37.2
C (99
   HR: 88 (87 - 106) bpm
   BP: 133/93(105) {112/68(85) - 159/93(113)} mmHg
   RR: 18 (17 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 121 kg (admission): 122.3 kg
   Height: 68 Inch
             Total In:
                                                                  2,014 mL
                                                                    511 mL
   PO:
             TF:
                                                                  1,204 mL
                                                                    464 mL
   IVF:
                                                                    670 mL
                                                                     46 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                  1,180 mL
   Urine:
                                                                  2,200 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -186 mL
                                                                   -669 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 59
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 10.3 L/min
   Physical Examination
   General Appearance: No acute distress, Diaphoretic, intubated. sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   513 K/uL
   107 mg/dL
   1.0 mg/dL
   30 mEq/L
   4.7 mEq/L
   28 mg/dL
   105 mEq/L
   144 mEq/L
   29.0 %
   7.9 K/uL
        [image002.jpg]
                             [**2164-1-5**]  03:44 PM
                             [**2164-1-5**]  03:58 PM
                             [**2164-1-5**]  06:46 PM
                             [**2164-1-6**]  03:15 AM
                             [**2164-1-6**]  03:29 AM
                             [**2164-1-7**]  03:19 AM
                             [**2164-1-7**]  02:08 PM
                             [**2164-1-8**]  02:57 AM
                             [**2164-1-8**]  05:08 PM
                             [**2164-1-9**]  04:16 AM
   WBC
   8.7
   8.0
   7.3
   6.9
   7.9
   Hct
   28.1
   27.4
   27.9
   30.1
   29.0
   Plt
   554
   629
   582
   518
   513
   Cr
   0.9
   1.1
   0.9
   1.0
   1.1
   1.0
   TCO2
   35
   32
   29
   30
   Glucose
   104
   100
   98
   101
   112
   107
   Other labs: PT / PTT / INR:13.1/25.8/1.1, ALT / AST:27/37, Alk Phos / T
   Bili:100/0.3, Amylase / Lipase:78/64, Differential-Neuts:68.7 %,
   Lymph:21.3 %, Mono:7.0 %, Eos:2.6 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.1 g/dL, LDH:186 IU/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   60 yo man with HIV, here with pneumonia with respiratory failure in
   setting of influenza A.
   Respiratory Failure: Now intubated x2 weeks.  RSBI 59 but sedation
   continues to be an issue.  Will cut fent/versed by half and add
   propofol if necessary to help facilitate getting fentanyl and versed
   off.
   Fevers: Continues to have fever spikes.  Cont vanc/cefepime.  F/U BAL
   culture results.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-1-9**] 12:07 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2163-12-29**] 04:00 PM
   Multi Lumen - [**2164-1-4**] 03:11 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2164-01-10 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2164-1-9**] 08:42 PM
 URINE CULTURE - At [**2164-1-9**] 08:43 PM
 FEVER - 102.1
F - [**2164-1-9**] 08:00 PM
   -spiked temp overnight, no change in abxs as had only been on  Vanc,
   Cefepime x 1 day, can broaden coverage (? antifungal) if re-spikes
   - continuing attempts to wean off vent
   - On PSV for vent
   - Fentanyl decreased to 25, Propofol will be decreased if possible
   - Talk of Presedex, but no decisions made yet. Bring up on rounds.
   - OG tube placed
   - Fever 102.1, bcx and ucx ordered (mini-BAL [**1-8**] so didn't get
   sputum), CXR was already ordered for OGT placement
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2164-1-9**] 08:00 PM
   Cefipime - [**2164-1-9**] 10:00 PM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-1-10**] 12:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-10**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.6
C (101.5
   HR: 93 (87 - 100) bpm
   BP: 133/69(89) {109/66(81) - 142/93(105)} mmHg
   RR: 14 (14 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119.9 kg (admission): 122.3 kg
   Height: 68 Inch
             Total In:
                                                                  1,762 mL
                                                                    526 mL
   PO:
             TF:
                                                                  1,050 mL
                                                                    382 mL
   IVF:
                                                                    712 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    370 mL
   Urine:
                                                                  2,150 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -388 mL
                                                                    156 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 450 (428 - 546) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   Plateau: 19 cmH2O
   Compliance: 53.9 cmH2O/mL
   SpO2: 95%
   ABG: ///31/
   Ve: 12.1 L/min
   Physical Examination
   GEN: NAD, sedated
   NECK: enlarged
   Cv: RRR, no m/r/g
   Pulm: CTAB
   ABD: obese, soft, nt
   EXTR: no edema b/l
   Labs / Radiology
   465 K/uL
   9.6 g/dL
   94 mg/dL
   1.1 mg/dL
   31 mEq/L
   4.3 mEq/L
   31 mg/dL
   107 mEq/L
   145 mEq/L
   30.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2164-1-5**]  03:58 PM
                             [**2164-1-5**]  06:46 PM
                             [**2164-1-6**]  03:15 AM
                             [**2164-1-6**]  03:29 AM
                             [**2164-1-7**]  03:19 AM
                             [**2164-1-7**]  02:08 PM
                             [**2164-1-8**]  02:57 AM
                             [**2164-1-8**]  05:08 PM
                             [**2164-1-9**]  04:16 AM
                             [**2164-1-10**]  03:09 AM
   WBC
   8.7
   8.0
   7.3
   6.9
   7.9
   7.5
   Hct
   28.1
   27.4
   27.9
   30.1
   29.0
   30.7
   Plt
   554
   629
   582
   [**Telephone/Fax (3) 12007**]
   Cr
   1.1
   0.9
   1.0
   1.1
   1.0
   1.1
   TCO2
   35
   32
   29
   30
   Glucose
   100
   98
   101
   112
   107
   94
   Other labs: PT / PTT / INR:15.4/27.2/1.3, ALT / AST:27/37, Alk Phos / T
   Bili:100/0.3, Amylase / Lipase:78/64, Differential-Neuts:68.7 %,
   Lymph:21.3 %, Mono:7.0 %, Eos:2.6 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.1 g/dL, LDH:186 IU/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.1
   mg/Dl
   Beta-glucan and galactomannin pending.
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Assessment and Plan
   A 60 year old gentleman with HIV on HAART and new hypoxia, radiographic
   evidence of pneumonia, and influenza A.  This morning he remains on AC
   after becoming tachypneic with attempts to wean to PSV.
   .
   # Fever:  Unknown source of fever, given patient is on Vanc/Ceftriaxone
   for bacterial superinfection/ARDS.  Has completed 10-day course of
   Tamiflu for testing positive for Influenza A.  Bcx, ucx, sputum cx
   negative.  Completed 10/10 days of Vanc and Ceftriaxone, switched to
   Cefepime [**1-2**].  CT chest shows PNA still present.  BAL [**1-3**] negative.
    Only positive cultures grew out yeast (sputum).  Fever curve unchanged
   following discontinuation of antibiotics for possible drug fever,
   abscess vs. fungal infection less likely but possible given HIV
   status.  Spiked again 2 days ago and CT from then showed persistent
   pneumonia and sinus disease so restarted antibiotics yesterday.  Spiked
   again after 1 day of Cefepime/Vanc.
   - Continue cefipime and vancomycin.  Looks to be a persistent
   pneumonia.  New day 1 is [**1-8**].
   - f/u mini-BAL and cultures
   - f/u B-glucan and galactomannin
   - motrin for additional fever relief, and Tylenol
   - send c.diff
   .
   # Respiratory failure:  No signs of PE on CT or DVT w/ LENI
s.  Remains
   difficult to wean off vent with tachypnea on PSV, despite prior
   improvement with a lower PEEP and on pressure support.  Most likely
   cause for his respiratory failure remains influenza with bacterial
   superinfection or ARDS.  Oseltamivir 150mg PO BID for 10 day course
   completed on [**1-3**].
   - Continue pressure support, decrease pressure slowly, as tolerated
   - 20mg IV lasix today for gentle diuresis again, goal -500
   - try extubation tomorrow if possible
   - needs to have a trach placed this week if can
t be extubated
   .
   Less active or resolved problems:
   .
   # Agitation: has a significant component of anxiety contributing to
   respiratory alkalosis and agitation when weaned.  Did well with
   seroquel, with improvement in agitation.
   - Wean  fent/versed as tolerated.
   - continue seroquel.
   .
   6) DM2: Blood sugars appear well controlled
   - Q6 ISS, no standing insulin
   .
   5) HIV: Patient's HIV currently well controlled although not on HAART
   initially due to illness, re-started HAART regimen.
   - Continue HAART, home regimen
   .
   # Abdominal pain: Patient without abdominal pain this morning and his
   CT abdomen showed no acute process.  His abdominal U/S showed no
   biliary duct obstruction and KUB had no evidence of obstruction.  He is
   now stooling. C.diff negative.
   - Given elevated lipases, is on Fentanyl/Versed instead of propofol;
   lipase trending towards normal most recently.
   - Continue BM regimen prn
   - Continue to monitor, seems to have stabilized
   .
   # Metabolic Alkalosis: would appear that has metabolic acidosis that is
   compensated, but since on vent could be that had resp acidosis w/
   metabolic compensation and had started to hyperventilate acutely.  An
   acute resp alkalosis on a compensated resp acidosis.  Currently
   resolved.
   .
   # Acute Renal Failure: Initially on admission, Cr has now normalized.
   - Foley catheter to monitor UOP
    .
   # Anemia: Hct is lower than baseline without recent evidence of
   bleeding.  His MCV is 80, concern for iron deficiency anemia.
   Hemolysis unlikely w/ normal haptoglobin.  Currently stable.
   - Iron studies more consistent with chronic disease but not classic
   .
   7) Hyperlipidemia:  Hold Atorvastatin while sorting out liver
   dysfunction.
   .
   FEN: No IVF, replete electrolytes, tube feeds- replete w/ fiber at 80
   Prophylaxis: Subcutaneous heparin; Omeprazole 20mg PO BID
   Access: A-line.  Right central line (subclavian).
   Code:  Full (discussed with patient)
   Communication: Patient & sister [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11689**]
   Disposition: Pending clinical improvement/extubation
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-1-9**] 11:07 PM 50 mL/hour
   Lines:
   Arterial Line - [**2163-12-29**] 04:00 PM
   Multi Lumen - [**2164-1-4**] 03:11 PM
   Code status: Full code

2164-01-10 12:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No on propofol only for sedation
   24 Hour Events:
 BLOOD CULTURED - At [**2164-1-9**] 08:42 PM
 URINE CULTURE - At [**2164-1-9**] 08:43 PM
 FEVER - 102.1
F - [**2164-1-9**] 08:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2164-1-10**] 09:00 AM
   Cefipime - [**2164-1-10**] 11:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-1-10**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-1-10**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.7
C (101.7
   HR: 94 (88 - 98) bpm
   BP: 132/76(94) {109/66(81) - 145/85(103)} mmHg
   RR: 26 (14 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119.9 kg (admission): 122.3 kg
   Height: 68 Inch
             Total In:
                                                                  1,762 mL
                                                                  1,042 mL
   PO:
             TF:
                                                                  1,050 mL
                                                                    600 mL
   IVF:
                                                                    712 mL
                                                                    382 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    680 mL
   Urine:
                                                                  2,150 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -388 mL
                                                                    363 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 444 (428 - 546) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: ///31/
   Ve: 11.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, large neck pannus
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   465 K/uL
   94 mg/dL
   1.1 mg/dL
   31 mEq/L
   4.3 mEq/L
   31 mg/dL
   107 mEq/L
   145 mEq/L
   30.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2164-1-5**]  03:58 PM
                             [**2164-1-5**]  06:46 PM
                             [**2164-1-6**]  03:15 AM
                             [**2164-1-6**]  03:29 AM
                             [**2164-1-7**]  03:19 AM
                             [**2164-1-7**]  02:08 PM
                             [**2164-1-8**]  02:57 AM
                             [**2164-1-8**]  05:08 PM
                             [**2164-1-9**]  04:16 AM
                             [**2164-1-10**]  03:09 AM
   WBC
   8.7
   8.0
   7.3
   6.9
   7.9
   7.5
   Hct
   28.1
   27.4
   27.9
   30.1
   29.0
   30.7
   Plt
   554
   629
   582
   [**Telephone/Fax (3) 12007**]
   Cr
   1.1
   0.9
   1.0
   1.1
   1.0
   1.1
   TCO2
   35
   32
   29
   30
   Glucose
   100
   98
   101
   112
   107
   94
   Other labs: PT / PTT / INR:15.4/27.2/1.3, ALT / AST:27/37, Alk Phos / T
   Bili:100/0.3, Amylase / Lipase:78/64, Differential-Neuts:68.7 %,
   Lymph:21.3 %, Mono:7.0 %, Eos:2.6 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.1 g/dL, LDH:186 IU/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   60 yo man with HIV, here with pneumonia with respiratory failure in
   setting of influenza A.
   Respiratory Failure: Now intubated x2 weeks.  Mechanics have been
   borderline, now on minimal sedation.  Still becomes tachypneic with
   attempts to come down on PSV.  Trach not ideal given large neck
   pannus.  Will try to control fevers and aim for extubation tomorrow
   with anesthesia backup give3n difficult initial intubation
   Fevers: Continues to have fever spikes.  Cont vanc/cefepime.  Will add
   NSAIDs to try to bring fevers down to see if this helps respiratory
   rate
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-1-10**] 09:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2163-12-29**] 04:00 PM
   Multi Lumen - [**2164-1-4**] 03:11 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2164-01-11 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.7
F - [**2164-1-10**] 08:00 AM
   - following extubation attempt on [**1-11**], please call family to let them
   know how it went
   - gave 40mg IV lasix at midnight to try to optimize volume status for
   potential extubation
   - [**Last Name (LF) 12018**], [**First Name3 (LF) **] needed PEEP raised form 8 to 12
   - diarrhea, cdiff sent
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2164-1-10**] 07:59 PM
   Cefipime - [**2164-1-10**] 10:08 PM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-1-10**] 08:00 AM
   Furosemide (Lasix) - [**2164-1-10**] 09:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-11**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.2
C (100.7
   HR: 87 (83 - 101) bpm
   BP: 145/67(91) {112/61(78) - 156/79(102)} mmHg
   RR: 19 (15 - 38) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119.9 kg (admission): 122.3 kg
   Height: 68 Inch
             Total In:
                                                                  2,314 mL
                                                                    541 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    362 mL
   IVF:
                                                                    814 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    330 mL
   Urine:
                                                                  1,500 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    814 mL
                                                                    211 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 854 (444 - 878) mL
   PS : 12 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 84
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: 7.46/43/72/28/5
   Ve: 17.5 L/min
   PaO2 / FiO2: 144
   Physical Examination
   General Appearance: GEN: NAD, sedated
   NECK: enlarged
   Cv: RRR, no m/r/g
   Pulm: CTAB
   ABD: obese, soft, nt
   EXTR: no edema b/l
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   435 K/uL
   9.7 g/dL
   108 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.6 mEq/L
   37 mg/dL
   109 mEq/L
   145 mEq/L
   28.8 %
   7.5 K/uL
        [image002.jpg]
                             [**2164-1-6**]  03:15 AM
                             [**2164-1-6**]  03:29 AM
                             [**2164-1-7**]  03:19 AM
                             [**2164-1-7**]  02:08 PM
                             [**2164-1-8**]  02:57 AM
                             [**2164-1-8**]  05:08 PM
                             [**2164-1-9**]  04:16 AM
                             [**2164-1-10**]  03:09 AM
                             [**2164-1-11**]  02:55 AM
                             [**2164-1-11**]  03:07 AM
   WBC
   8.7
   8.0
   7.3
   6.9
   7.9
   7.5
   7.5
   Hct
   28.1
   27.4
   27.9
   30.1
   29.0
   30.7
   28.8
   Plt
   554
   629
   582
   [**Telephone/Fax (3) 12007**]
   435
   Cr
   1.1
   0.9
   1.0
   1.1
   1.0
   1.1
   1.1
   TCO2
   29
   30
   32
   Glucose
   100
   98
   101
   112
   107
   94
   103
   108
   Other labs: PT / PTT / INR:15.4/27.2/1.3, ALT / AST:27/37, Alk Phos / T
   Bili:100/0.3, Amylase / Lipase:78/64, Differential-Neuts:68.7 %,
   Lymph:21.3 %, Mono:7.0 %, Eos:2.6 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.1 g/dL, LDH:186 IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:4.4
   mg/dL
   Imaging: cxr [**1-11**] - minimal increased peri-hilar opacity, no
   significant change
   Microbiology:    RESPIRATORY CULTURE (Final [**2164-1-10**]):
         Commensal Respiratory Flora Absent.
         YEAST.    ~7000/ML.
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   A 60 year old gentleman with HIV on HAART and new hypoxia, radiographic
   evidence of pneumonia, and influenza A.  This morning he remains on AC
   after becoming tachypneic with attempts to wean to PSV.
   .
   # Fever:  Unknown source of fever, given patient is on Vanc/Ceftriaxone
   for bacterial superinfection/ARDS.  Has completed 10-day course of
   Tamiflu for testing positive for Influenza A.  Bcx, ucx, sputum cx
   negative.  Completed 10/10 days of Vanc and Ceftriaxone, switched to
   Cefepime [**1-2**].  CT chest shows PNA still present.  BAL [**1-3**] negative.
   Only positive cultures grew out yeast (sputum).  Fever curve unchanged
   following discontinuation of antibiotics for possible drug fever,
   abscess vs. fungal infection less likely but possible given HIV
   status.  Spiked again 2 days ago and CT from then showed persistent
   pneumonia and sinus disease so restarted antibiotics yesterday.  Spiked
   again after 1 day of Cefepime/Vanc.
   - Continue cefipime and vancomycin, currently day 4.  Looks to be a
   persistent pneumonia.  New day 1 is [**1-8**].
   - f/u mini-BAL and cultures; ntd other than yeast in BAL
   - f/u B-glucan and galactomannin; pending
   - motrin for additional fever relief, and Tylenol
   .
   # Respiratory failure:  No signs of PE on CT or DVT w/ LENI
s.  Remains
   difficult to wean off vent with tachypnea on PSV, despite prior
   improvement with a lower PEEP and on pressure support.  Most likely
   cause for his respiratory failure remains influenza with bacterial
   superinfection or ARDS.  Oseltamivir 150mg PO BID for 10 day course
   completed on [**1-3**].
   - Continue pressure support, decrease pressure slowly, as tolerated
   - try extubation today if possible; given lasix yesterday in
   anticipation of potential extubation
   - needs to have a trach placed this week if can
t be extubated
   .
   Less active or resolved problems:
   .
   # Agitation: has a significant component of anxiety contributing to
   respiratory alkalosis and agitation when weaned.  Did well with
   seroquel, with improvement in agitation.
   - Wean fent/versed as tolerated.
   - continue seroquel.
   .
   6) DM2: Blood sugars appear well controlled
   - Q6 ISS, no standing insulin
   .
   5) HIV: Patient's HIV currently well controlled although not on HAART
   initially due to illness, re-started HAART regimen.
   - Continue HAART, home regimen
   .
   # Abdominal pain: Patient without abdominal pain this morning and his
   CT abdomen showed no acute process.  His abdominal U/S showed no
   biliary duct obstruction and KUB had no evidence of obstruction.  He is
   now stooling. C.diff negative.
   - Given elevated lipases, is on Fentanyl/Versed instead of propofol;
   lipase trending towards normal most recently.
   - Continue BM regimen prn
   - Continue to monitor, seems to have stabilized
   .
   # Metabolic Alkalosis: would appear that has metabolic acidosis that is
   compensated, but since on vent could be that had resp acidosis w/
   metabolic compensation and had started to hyperventilate acutely.  An
   acute resp alkalosis on a compensated resp acidosis.  Currently
   resolved.
   .
   # Acute Renal Failure: Initially on admission, Cr has now normalized.
   - Foley catheter to monitor UOP
    .
   # Anemia: Hct is lower than baseline without recent evidence of
   bleeding.  His MCV is 80, concern for iron deficiency anemia.
   Hemolysis unlikely w/ normal haptoglobin.  Currently stable.
   - Iron studies more consistent with chronic disease but not classic
   .
   7) Hyperlipidemia:  Hold Atorvastatin while sorting out liver
   dysfunction.
   .
   FEN: No IVF, replete electrolytes, tube feeds- replete w/ fiber at 80
   Prophylaxis: Subcutaneous heparin; Omeprazole 20mg PO BID
   Access: A-line.  Right central line (subclavian).
   Code:  Full (discussed with patient)
   Communication: Patient & sister [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11689**]
   Disposition: Pending clinical improvement/extubation
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-1-11**] 04:48 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2163-12-29**] 04:00 PM
   Multi Lumen - [**2164-1-4**] 03:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-01-11 10:58:00 Physician Attending Progress Note
Chief Complaint:
   HPI: arousable this am, denies any pain
   24 Hour Events:
 FEVER - 101.7
F - [**2164-1-10**] 08:00 AM
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Cefipime - [**2164-1-10**] 10:08 PM
   Vancomycin - [**2164-1-11**] 08:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2164-1-10**] 09:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-1-11**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.5
C (99.5
   HR: 87 (83 - 101) bpm
   BP: 150/76(98) {112/61(78) - 156/79(102)} mmHg
   RR: 14 (14 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119.9 kg (admission): 122.3 kg
   Height: 68 Inch
             Total In:
                                                                  2,314 mL
                                                                  1,090 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    541 mL
   IVF:
                                                                    814 mL
                                                                    319 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    460 mL
   Urine:
                                                                  1,500 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    814 mL
                                                                    630 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 854 (444 - 878) mL
   PS : 12 cmH2O
   RR (Set): 628
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 84
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.46/43/72/28/5
   Ve: 11.3 L/min
   PaO2 / FiO2: 144
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   435 K/uL
   108 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.6 mEq/L
   37 mg/dL
   109 mEq/L
   145 mEq/L
   28.8 %
   7.5 K/uL
        [image002.jpg]
                             [**2164-1-6**]  03:15 AM
                             [**2164-1-6**]  03:29 AM
                             [**2164-1-7**]  03:19 AM
                             [**2164-1-7**]  02:08 PM
                             [**2164-1-8**]  02:57 AM
                             [**2164-1-8**]  05:08 PM
                             [**2164-1-9**]  04:16 AM
                             [**2164-1-10**]  03:09 AM
                             [**2164-1-11**]  02:55 AM
                             [**2164-1-11**]  03:07 AM
   WBC
   8.7
   8.0
   7.3
   6.9
   7.9
   7.5
   7.5
   Hct
   28.1
   27.4
   27.9
   30.1
   29.0
   30.7
   28.8
   Plt
   554
   629
   582
   [**Telephone/Fax (3) 12007**]
   435
   Cr
   1.1
   0.9
   1.0
   1.1
   1.0
   1.1
   1.1
   TCO2
   29
   30
   32
   Glucose
   100
   98
   101
   112
   107
   94
   103
   108
   Other labs: PT / PTT / INR:15.4/27.2/1.3, ALT / AST:27/37, Alk Phos / T
   Bili:100/0.3, Amylase / Lipase:72/87, Differential-Neuts:68.7 %,
   Lymph:21.3 %, Mono:7.0 %, Eos:2.6 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.1 g/dL, LDH:186 IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:4.4
   mg/dL
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   60 yo man with HIV, here with pneumonia with respiratory failure in
   setting of influenza A.
   Respiratory Failure: RSBI 81 today.  Will change settings to [**6-7**] and
   plan for extubation today with anesthesia backup given difficult
   intubation
   Fevers: Continues to have fever spikes.  Cont vanc/cefepime.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-1-11**] 04:48 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2163-12-29**] 04:00 PM
   Multi Lumen - [**2164-1-4**] 03:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2164-01-12 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2164-1-11**] 03:16 PM
   - patient extubated, doing well with O2sats > 97% on NC. Alert and
   talking.
   - speech & swallow, and PT consults placed
   - B glucan neg, galactomannin pending
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2164-1-11**] 08:17 PM
   Cefipime - [**2164-1-11**] 10:27 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-1-11**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2164-1-12**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-12**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.1
   HR: 92 (82 - 102) bpm
   BP: 118/80(96) {91/66(83) - 163/99(115)} mmHg
   RR: 20 (14 - 40) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 119.9 kg (admission): 122.3 kg
   Height: 68 Inch
                  Total In:
                                                                  1,594 mL
                                                                    100 mL
   PO:
                  100 mL
   TF:
                                                                    650 mL
   IVF:
                                                                    714 mL
   Blood products:
   Total out:
                                                                  2,520 mL
                                                                  1,215 mL
   Urine:
                                                                  1,720 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -926 mL
                                                                 -1,115 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 491 (491 - 491) mL
   PS : 8 cmH2O
   RR (Set): 628
   RR (Spontaneous): 30
   PEEP: 8 cmH2O
   FiO2: 50%
   SpO2: 96%
   ABG: 7.45/35/117/25/1
   Ve: 12.8 L/min
   PaO2 / FiO2: 234
   Physical Examination
   General Appearance: GEN: Sedated but responsive and obeys commands, NAD
   NECK: enlarged
   Cv: RRR, no m/r/g
   Pulm: CTAB
   ABD: obese, soft, nt
   EXTR: no edema b/l
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   389 K/uL
   9.9 g/dL
   93 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.5 mEq/L
   30 mg/dL
   112 mEq/L
   146 mEq/L
   28.9 %
   7.2 K/uL
        [image002.jpg]
                             [**2164-1-7**]  03:19 AM
                             [**2164-1-7**]  02:08 PM
                             [**2164-1-8**]  02:57 AM
                             [**2164-1-8**]  05:08 PM
                             [**2164-1-9**]  04:16 AM
                             [**2164-1-10**]  03:09 AM
                             [**2164-1-11**]  02:55 AM
                             [**2164-1-11**]  03:07 AM
                             [**2164-1-11**]  12:17 PM
                            [**2164-1-12**]  04:30 AM
   WBC
   8.0
   7.3
   6.9
   7.9
   7.5
   7.5
   7.2
   Hct
   27.4
   27.9
   30.1
   29.0
   30.7
   28.8
   28.9
   Plt
   629
   582
   518
   [**Telephone/Fax (3) 12053**]
   389
   Cr
   0.9
   1.0
   1.1
   1.0
   1.1
   1.1
   0.9
   TCO2
   30
   32
   25
   Glucose
   98
   101
   112
   107
   94
   103
   108
   93
   Other labs: PT / PTT / INR:15.4/27.2/1.3, ALT / AST:27/37, Alk Phos / T
   Bili:100/0.3, Amylase / Lipase:72/89, Differential-Neuts:68.7 %,
   Lymph:21.3 %, Mono:7.0 %, Eos:2.6 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.1 g/dL, LDH:186 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.9
   mg/dL
   Imaging: [**1-12**] cxr (my read):  improvement of left lung diffuse
   opacity, otherwise stable
   Microbiology: [**1-10**] C. diff neg
   [**1-9**] Ucx ngtd
   [**1-9**] bcx ntd
   beta glucan negative
   aspergillus galactomannan pending
   Assessment and Plan
 DIARRHEA
   A 60 year old gentleman with HIV on HAART and new hypoxia, radiographic
   evidence of pneumonia, and influenza A.  This morning he remains on AC
   after becoming tachypneic with attempts to wean to PSV.
   .
   # Fever:  Unknown source of fever, given patient is on Vanc/Ceftriaxone
   for bacterial superinfection/ARDS.  Has completed 10-day course of
   Tamiflu for testing positive for Influenza A.  Bcx, ucx, sputum cx
   negative.  Completed 10/10 days of Vanc and Ceftriaxone, switched to
   Cefepime [**1-2**].  CT chest shows PNA still present.  BAL [**1-3**] negative.
   Only positive cultures grew out yeast (sputum).  Fever curve unchanged
   following discontinuation of antibiotics for possible drug fever,
   abscess vs. fungal infection less likely but possible given HIV
   status.  Spiked again 2 days ago and CT from then showed persistent
   pneumonia and sinus disease so restarted antibiotics yesterday.  Spiked
   again after 1 day of Cefepime/Vanc.
   - Continue cefipime and vancomycin, currently day 4.  Looks to be a
   persistent pneumonia.  New day 1 is [**1-8**].
   - f/u mini-BAL and cultures; ntd other than yeast in BAL
   - f/u B-glucan and galactomannin; pending
   - motrin for additional fever relief, and Tylenol
   .
   # Respiratory failure:  No signs of PE on CT or DVT w/ LENI
s.  Remains
   difficult to wean off vent with tachypnea on PSV, despite prior
   improvement with a lower PEEP and on pressure support.  Most likely
   cause for his respiratory failure remains influenza with bacterial
   superinfection or ARDS.  Oseltamivir 150mg PO BID for 10 day course
   completed on [**1-3**].
   - Continue pressure support, decrease pressure slowly, as tolerated
   - try extubation today if possible; given lasix yesterday in
   anticipation of potential extubation
   - needs to have a trach placed this week if can
t be extubated
   .
   # Elevated INR:  Likely [**3-7**] nutrition deficit and decreased production
   of enteric flora given prolonged antibiotics course.
   - Vitamin K x3 days
   .
   Less active or resolved problems:
   .
   # Agitation: has a significant component of anxiety contributing to
   respiratory alkalosis and agitation when weaned.  Did well with
   seroquel, with improvement in agitation.
   - Wean Fentanyl/versed
   .
   6) DM2: Blood sugars appear well controlled
   - Q6 ISS, no standing insulin
   .
   5) HIV: Patient's HIV currently well controlled although not on HAART
   initially due to illness, re-started HAART regimen.
   - Continue HAART, home regimen
   .
   # Abdominal pain: Patient without abdominal pain this morning and his
   CT abdomen showed no acute process.  His abdominal U/S showed no
   biliary duct obstruction and KUB had no evidence of obstruction.  He is
   now stooling. C.diff negative.
   - Given elevated lipases, is on Fentanyl/Versed instead of propofol;
   lipase trending towards normal most recently.
   - Continue BM regimen prn
   - Continue to monitor, seems to have stabilized
   .
   # Metabolic Alkalosis: would appear that has metabolic acidosis that is
   compensated, but since on vent could be that had resp acidosis w/
   metabolic compensation and had started to hyperventilate acutely.  An
   acute resp alkalosis on a compensated resp acidosis.  Currently
   resolved.
   .
   # Acute Renal Failure: Initially on admission, Cr has now normalized.
   - Foley catheter to monitor UOP
    .
   # Anemia: Hct is lower than baseline without recent evidence of
   bleeding.  His MCV is 80, concern for iron deficiency anemia.
   Hemolysis unlikely w/ normal haptoglobin.  Currently stable.
   - Iron studies more consistent with chronic disease but not classic
   .
   7) Hyperlipidemia:  Hold Atorvastatin while sorting out liver
   dysfunction.
   .
   FEN: No IVF, replete electrolytes, tube feeds- replete w/ fiber at 80
   Prophylaxis: Subcutaneous heparin; Omeprazole 20mg PO BID
   Access: A-line.  Right central line (subclavian).
   Code:  Full (discussed with patient)
   Communication: Patient & sister [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11689**]
   Disposition: Pending clinical improvement/extubation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2163-12-29**] 04:00 PM
   Multi Lumen - [**2164-1-4**] 03:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-01-12 13:38:00 Physician Attending Progress Note
Chief Complaint: Influenza, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2164-1-11**] 03:16 PM
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   Ciprofloxacin
   Abdominal pain;
   Last dose of Antibiotics:
   Cefipime - [**2164-1-11**] 10:27 PM
   Vancomycin - [**2164-1-12**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-1-12**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: No(t) Dyspnea
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-1-12**] 01:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 96 (87 - 102) bpm
   BP: 132/82(94) {76/60(63) - 162/101(115)} mmHg
   RR: 23 (18 - 39) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 119.9 kg (admission): 122.3 kg
   Height: 68 Inch
             Total In:
                                                                  1,594 mL
                                                                    300 mL
   PO:
             100 mL
   TF:
                                                                    650 mL
   IVF:
                                                                    714 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,520 mL
                                                                  1,475 mL
   Urine:
                                                                  1,720 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -926 mL
                                                                 -1,175 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, mildly confused
   Labs / Radiology
   9.9 g/dL
   389 K/uL
   93 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.5 mEq/L
   30 mg/dL
   112 mEq/L
   146 mEq/L
   28.9 %
   7.2 K/uL
        [image002.jpg]
                             [**2164-1-7**]  03:19 AM
                             [**2164-1-7**]  02:08 PM
                             [**2164-1-8**]  02:57 AM
                             [**2164-1-8**]  05:08 PM
                             [**2164-1-9**]  04:16 AM
                             [**2164-1-10**]  03:09 AM
                             [**2164-1-11**]  02:55 AM
                             [**2164-1-11**]  03:07 AM
                             [**2164-1-11**]  12:17 PM
                            [**2164-1-12**]  04:30 AM
   WBC
   8.0
   7.3
   6.9
   7.9
   7.5
   7.5
   7.2
   Hct
   27.4
   27.9
   30.1
   29.0
   30.7
   28.8
   28.9
   Plt
   629
   582
   518
   [**Telephone/Fax (3) 12053**]
   389
   Cr
   0.9
   1.0
   1.1
   1.0
   1.1
   1.1
   0.9
   TCO2
   30
   32
   25
   Glucose
   98
   101
   112
   107
   94
   103
   108
   93
   Other labs: PT / PTT / INR:15.4/27.2/1.3, ALT / AST:27/37, Alk Phos / T
   Bili:100/0.3, Amylase / Lipase:72/89, Differential-Neuts:68.7 %,
   Lymph:21.3 %, Mono:7.0 %, Eos:2.6 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.1 g/dL, LDH:186 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
 DIARRHEA
   60 yo man with HIV, here with pneumonia with respiratory failure in
   setting of influenza A.
   Respiratory Failure: Extubated yesterday and currently doing well on
   nasal cannula
   Fevers: Fever curve coming down.  Cont vanc/cefepime.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-1-4**] 03:11 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: